2114-08-24 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2114-8-23**] 08:13 PM
 MULTI LUMEN - START [**2114-8-23**] 08:15 PM
 BLOOD CULTURED - At [**2114-8-23**] 09:00 PM
 URINE CULTURE - At [**2114-8-23**] 09:00 PM
 BLOOD CULTURED - At [**2114-8-24**] 02:51 AM
 FEVER - 102.2
F - [**2114-8-24**] 12:00 AM
   - CT head (prelim) - no acute processes
   - CT abdomen (prelim) - pancreatitis, cannot rule out small foci of
   pancreatic necrosis, fluid tracking down into pelvis
   - surgery consulted: d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] and vanc, bcx and ucx negative, and no
   obvious source given that there is no obvious pancreatic necrosis
   currently
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2114-8-23**] 11:19 PM
   Meropenem - [**2114-8-24**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 7 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Insulin - Regular - 0.5 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-8-24**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-8-24**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 37.9
C (100.3
   HR: 95 (87 - 114) bpm
   BP: 121/71(81) {107/59(72) - 139/81(95)} mmHg
   RR: 17 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 15 (0 - 15)mmHg
   Bladder pressure: 11 (11 - 11) mmHg
   Total In:
                                                                    377 mL
                                                                    219 mL
   PO:
   TF:
                                                                     37 mL
   IVF:
                                                                    377 mL
                                                                    182 mL
   Blood products:
   Total out:
                                                                    935 mL
                                                                    555 mL
   Urine:
                                                                    935 mL
                                                                    465 mL
   NG:
                                                                     90 mL
   Stool:
   Drains:
   Balance:
                                                                   -558 mL
                                                                   -336 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 567 (567 - 567) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 25 cmH2O
   SpO2: 100%
   ABG: 7.47/42/105/29/6
   Ve: 8.1 L/min
   PaO2 / FiO2: 263
   Physical Examination
   General Young man intubated and sedated
   HEENT Sclera anicteric, conjunctiva slightly injected on right
   Neck Supple
   Pulm Diminished at right base
   CV Tachycardic regular S1 S2 no m/r/g
   Abd Mildly distended, diminished bowel sounds, grimaces with palpation
   Extrem Warm no edema palpable distal pulses. legs symmetric
   Neuro Opens eyes to voice, squeezes hands and wiggles toes to command
   Derm No rash or jaundice
   Lines/tubes/drains foley yellow urine left subclavian
   Labs / Radiology
   675 K/uL
   7.4 g/dL
   81 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.1 mEq/L
   19 mg/dL
   110 mEq/L
   148 mEq/L
   22.4 %
   14.1 K/uL
        [image002.jpg]
                             [**2114-8-23**]  08:23 PM
                             [**2114-8-23**]  09:35 PM
                             [**2114-8-24**]  04:48 AM
   WBC
   14.0
   14.1
   Hct
   24.0
   22.4
   Plt
   690
   675
   Cr
   0.6
   0.6
   TCO2
   31
   Glucose
   95
   81
   Other labs: PT / PTT / INR:12.6/24.7/1.1, ALT / AST:18/46, Alk Phos / T
   Bili:67/0.5, Amylase / Lipase:13/94, Differential-Neuts:71.0 %,
   Band:1.0 %, Lymph:14.0 %, Mono:7.0 %, Eos:3.0 %, Lactic Acid:0.8
   mmol/L, Albumin:2.8 g/dL, LDH:474 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL,
   PO4:5.2 mg/dL
   BCx, Ucx, MRSA screen
 pending
   CXR
 bilateral pleural effusions
   Assessment and Plan
 PANCREATITIS, ACUTE
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALCOHOL ABUSE
   Mr. [**Known lastname 8276**] is a 39M with h/o DM and alcoholism and pancreatitis who is
   transferred for a higher level of care.
   .
   * Respiratory Failure
   Pt was intubated at OSH for respiratory distress.  Patient likely has
   functionally healthy lungs prior to hospitalization.  Barriers to
   extubation are the increased intraabdominal pressure from the
   pancreatitis, presence of bilateral pleural effusions.  Pt may require
   more PEEP given the increased intraabdominal pressure from edema
   - wean down PEEP as tolerated
   .
   * Pancreatitis
   Based on admission labs, had on presentation. No evidence of necrosis
   on OSH imaging. Most likely precipitated by drinking binge consider
   also hypertriglyceridemia. HCTZ can also be associated with
   pancreatitis
 though I think this is much less likely to be the
   explanation in his case.
   - baseline TG and lipase checked
   - Review CT abd from OSH with radiology, repeat here
   - Surgery recs appreciated
   .
   * Fever
   Could be due to pancreatitis alone, but need to consider other causes
   in this man with extended ICU admission - both noninfectious (eg
   acalculous cholecystitis, DVT, drug fever) and infectious (line
   infection, VAP, UTI etc). Exam not suggestive of clot.
   - As patient's WBC trended down with doripenem, would continue on
   meropenem and vancomycin here for now pending further workup, with plan
   to de-escalate if micro remains negative
   - CXR
   - Blood, urine, sputum cultures. Check stool C diff if having diarrhea.
   - Followup remaining OSH micro
   .
   * Agitation
   Patient 10+ days out from last drink, therefore delirium tremens less
   likely. [**Month (only) 8**] be delirious from acute illness, medications, prolongued
   ICU stay, electrolyte disturbances (eg hypernatremia). Head CT here
   negative.
   - Haldol prn, check QTC
   - Hold neurontin
   - optimize sedation
   .
   * Vent
   Currently on minimal supplemental O2. Difficulty in tolerated decreased
   PEEP at OSH may relate to abdominal inflammation/fluid.  CT here with
   significant consolidations at bases of uncertain cause.
   - Check ABG
   - Wean down PEEP as tolerated
   - Reattempt wean to PSV as tolerated
   - Bladder pressure 11 this AM
   .
   * Alcohol and substance abuse
   - Social work consult
   - IV thiamine, MVT, folate
   .
   * DM
   - Continue insulin drip
   .
   * HTN
   - DC clonidine patch, holding home antihypertensives for now
   .
   * Anemia
   Very concentrated at initial presentation likely [**2-12**] third spacing
   - Follow Hct [**Hospital1 **], maintain active T+S
   - Guiac stools
   - Check haptoglobin, smear to r/o hemolysis
   - Can check basic b12/folate/iron
   .
   # Nutrition
   - restart tube feeds
   - give 4L free water to correct free water deficit
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2114-8-24**] 04:40 AM 15 mL/hour
   Glycemic Control:  insulin drip
   Lines:
   Multi Lumen - [**2114-8-23**] 08:15 PM
   22 Gauge - [**2114-8-24**] 12:00 AM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: PPI
   VAP:  HOB elevation, VAP bundle, daily wake up
   Comments:
   Communication:  Comments: wife
   [**Name (NI) 156**] status: full code
   Disposition: ICU

2114-08-24 09:26:00 Physician Attending Progress Note
Chief Complaint: Pancreatitis, acute respiratory failure, EtOH
   withdrawal
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   In MICU, continues to be febrile. Head CT negative for acute changes.
   Abdominal CT showed fluid tracking to pelvis. No major areas of
   necrosis.
   Surgical team has been consulted.
   Ventilated with AC with 40% oxygenation and PEEP 10.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2114-8-23**] 08:13 PM
 MULTI LUMEN - START [**2114-8-23**] 08:15 PM
 BLOOD CULTURED - At [**2114-8-23**] 09:00 PM
 URINE CULTURE - At [**2114-8-23**] 09:00 PM
 BLOOD CULTURED - At [**2114-8-24**] 02:51 AM
 FEVER - 102.2
F - [**2114-8-24**] 12:00 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Last dose of Antibiotics:
   Meropenem - [**2114-8-24**] 12:00 AM
   Vancomycin - [**2114-8-24**] 08:22 AM
   Infusions:
   Midazolam (Versed) - 7 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Insulin - Regular - 0.5 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-8-24**] 07:44 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-8-24**] 09:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 37.9
C (100.2
   HR: 99 (87 - 114) bpm
   BP: 124/70(81) {107/59(72) - 139/81(95)} mmHg
   RR: 16 (14 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 13 (0 - 15)mmHg
   Bladder pressure: 11 (11 - 11) mmHg
   Total In:
                                                                    377 mL
                                                                    567 mL
   PO:
   TF:
                                                                     68 mL
   IVF:
                                                                    377 mL
                                                                    499 mL
   Blood products:
   Total out:
                                                                    935 mL
                                                                    765 mL
   Urine:
                                                                    935 mL
                                                                    675 mL
   NG:
                                                                     90 mL
   Stool:
   Drains:
   Balance:
                                                                   -558 mL
                                                                   -198 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 567 (567 - 567) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 17 cmH2O
   Compliance: 78.6 cmH2O/mL
   SpO2: 99%
   ABG: 7.47/42/105/29/6
   Ve: 7.4 L/min
   PaO2 / FiO2: 263
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , Diminished: at bases, No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: No(t) Soft, Non-tender, No(t) Bowel sounds present,
   Distended, No(t) Tender: , No(t) Obese, Firm
   Extremities: Right lower extremity edema: Trace edema, Left lower
   extremity edema: Trace, No(t) Cyanosis, No(t) Clubbing, Slightly
   delayed capillary refill on cooling blanket
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   675 K/uL
   81 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.1 mEq/L
   19 mg/dL
   110 mEq/L
   148 mEq/L
   22.4 %
   14.1 K/uL
        [image002.jpg]
                             [**2114-8-23**]  08:23 PM
                             [**2114-8-23**]  09:35 PM
                             [**2114-8-24**]  04:48 AM
   WBC
   14.0
   14.1
   Hct
   24.0
   22.4
   Plt
   690
   675
   Cr
   0.6
   0.6
   TCO2
   31
   Glucose
   95
   81
   Other labs: PT / PTT / INR:12.6/24.7/1.1, ALT / AST:18/46, Alk Phos / T
   Bili:67/0.5, Amylase / Lipase:13/94, Differential-Neuts:71.0 %,
   Band:1.0 %, Lymph:17.0 %, Mono:10.0 %, Eos:1.0 %, Lactic Acid:0.8
   mmol/L, Albumin:2.8 g/dL, LDH:474 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL,
   PO4:5.2 mg/dL
   Assessment and Plan
 PANCREATITIS, ACUTE
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALCOHOL ABUSE
   ELECTROLYTES/HYPERNATREMIA
   ANEMIA
   =============
   Respiratory status stable with adequate oxygenation although requiring
   moderate levels of PEEP. This may reflect increased pleural pressures
   secondary to increased abdominal pressure (respiratory system
   compliance approximately 25). If plateau pressures increase or he shows
   ongoing PEEP sensitivity, would place esophageal balloon to assess for
   restrictive chest wall physiology.
   Fever probably a combination of his pancreatic inflammation and
   possibly a superimposed pneumonia. Unable to distinguish altelectasis
   from infection from the radiographs. Continue to monitor cultures.
   Maintain antibiotics for now for possible pneumonia. Calcium level is
   acceptable. Hct is reduced and nearing transfusion threshold.
   CT scan shows severe pancreatic edema. No major necrosis identified at
   this time. Intra-abdominal pressure is mildly elevated. Urine output is
   good at this time and urine function is normal. Hemodynamics have been
   stable. Serum sodium is elevated; patient needs free water repletion.
   Metabolic alkalosis present.  Serum potassium acceptable. [**Month (only) 8**] have had
   NG suction earlier in the course of his illness.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2114-8-24**] 04:40 AM 25 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2114-8-23**] 08:15 PM
   22 Gauge - [**2114-8-24**] 12:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
s wife involved in rounds
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2114-08-25 08:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2114-8-24**] 12:43 PM
 MULTI LUMEN - STOP [**2114-8-24**] 04:00 PM
 FEVER - 104.2
F - [**2114-8-24**] 07:00 PM
   .
   -Esophageal balloon - pleural pressure 8 suggesting high plateau is due
   to decreased chest wall compliance b/c of swollen abdomen pushing up.
   Balloon more accurately reflects intra-pulmonary pressures which are
   normal (i.e. he does not likely have intrinsic lung dz)
   -no weaning from vent overnight to give him rest- continued AC 550x14
   with FiO2 40% and PEEP 10.
   .
   -Right IJ placed; Left IJ removed - tip sent for cx
   .
   -Hct 23 --> transfused 1 unit cells --> 28.9
   .
   -Bladder pressures (nl [**5-17**]; bad 15-17): [**6-19**] at 1850; 14 at MN despite
   increased sedation (surgery had no new recs, pt with shivering at time
   which may have increased abd pressure; monitored)-> 11 at 0130.
   .
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2114-8-25**] 01:39 AM
   Vancomycin - [**2114-8-25**] 08:06 AM
   Infusions:
   Insulin - Regular - 0.5 units/hour
   Fentanyl (Concentrate) - 175 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2114-8-24**] 01:59 PM
   Fentanyl - [**2114-8-24**] 11:50 PM
   Heparin Sodium (Prophylaxis) - [**2114-8-25**] 08:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-8-25**] 08:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.1
C (104.2
   Tcurrent: 36.8
C (98.2
   HR: 86 (69 - 105) bpm
   BP: 113/65(76) {98/53(63) - 135/86(95)} mmHg
   RR: 19 (12 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 23 (6 - 23)mmHg
   Bladder pressure: 11 (9 - 15) mmHg
   Total In:
                                                                  6,294 mL
                                                                  1,155 mL
   PO:
   TF:
                                                                    417 mL
                                                                    141 mL
   IVF:
                                                                  3,691 mL
                                                                  1,014 mL
   Blood products:
                                                                    725 mL
   Total out:
                                                                  2,230 mL
                                                                    285 mL
   Urine:
                                                                  1,740 mL
                                                                    285 mL
   NG:
                                                                     90 mL
   Stool:
   Drains:
   Balance:
                                                                  4,064 mL
                                                                    870 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 32 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: 7.44/44/85 /25
   Ve: 7.2 L/min
   PaO2 / FiO2: 213\
   Satting 100% on AC 550x14 with FiO2 40% and PEEP 10 with ABG above.
   Physical Examination
   General Young man intubated, aroused with voice
   HEENT Sclera anicteric
   Neck Supple
   Pulm Clear anteriorly b/l
   CV Tachycardic regular S1, split S2, no m/r/g
   Abd Mildly distended, active bowel sounds, did not grimace with
   palpation
   Extrem Warm, trace- 1+ edema in hands and feet, palpable distal pulses.
   legs symmetric
   Derm No rash or jaundice
   Labs / Radiology
   712 K/uL
   9.6 g/dL
   97 mg/dL
   0.5 mg/dL
   25 mEq/L
   4.0 mEq/L
   16 mg/dL
   102 mEq/L
   138 mEq/L
   28.9 %
   16.3 K/uL
        [image002.jpg]
                             [**2114-8-23**]  08:23 PM
                             [**2114-8-23**]  09:35 PM
                             [**2114-8-24**]  04:48 AM
                             [**2114-8-24**]  05:18 PM
                             [**2114-8-24**]  11:41 PM
                             [**2114-8-25**]  02:39 AM
   WBC
   14.0
   14.1
   16.3
   Hct
   24.0
   22.4
   23.0
   28.9
   Plt
   690
   675
   712
   Cr
   0.6
   0.6
   0.6
   0.5
   TCO2
   31
   31
   Glucose
   95
   81
   94
   97
   Other labs: ALT / AST:24/59, Alk Phos / T Bili:70/1.5,  Albumin:2.8
   g/dL, LDH:503 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   .
   [**8-23**] UCx - no growth
   [**8-23**], [**8-24**] BCx - NGTD
   [**8-24**] Sputum - cx pending; >25 PMNs and <10 epithelial cells/100X field.
   NO MICROORGANISMS SEEN
   MRSA pending
   C. diff negative
   L IJ tip culture
 pending
   .
   CXR [**2114-8-25**]: My read: ETT in place, NG/OGT in place, persistent
   infiltrates b/l
   Assessment and Plan
 PANCREATITIS, ACUTE
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALCOHOL ABUSE
   .
   Mr. [**Known lastname 8276**] is a 39M with h/o DM and alcoholism and pancreatitis who is
   transferred for a higher level of care.
   .
   * Respiratory Failure
   Pt was intubated at OSH for respiratory distress.  Patient likely has
   functionally healthy lungs prior to hospitalization.  Barriers to
   extubation are the increased intraabdominal pressure from the
   pancreatitis, presence of bilateral pleural effusions.  Pt may require
   more PEEP given the increased intraabdominal pressure from edema.
   -          continue on current vent settings
   -      Leave balloon in place given increasing plateau pressures
   -          monitor bladder pressure and UOP
   .
   * Pancreatitis
 No evidence of necrosis on OSH imaging
 CT unchanged
   from OSH per radiology. Most likely precipitated by drinking binge
   consider also hypertriglyceridemia.
   - No new surgery recs as of last night
 will appreciate any new recs
   -monitor Abd exam for abdominal compartment syndrome
   -monitor bladder pressures and UOP
   -continue IVF
   -Nutrition has been shown to be beneficial in pancreatitis
 continue
   tube feeds.
   .
   * Fever
 With persistent fevers up to 104 overnight. Most likely due
   to pancreatitis alone, but need to consider other causes in this man
   with extended ICU admission - both noninfectious (eg acalculous
   cholecystitis (LFTs normal), DVT (no asymmetry on exam), drug fever
   (may be due to meropenem)) and infectious (line infection (L IJ tip
   sent for culture), VAP (no evidence on CXR), UTI (UCx negative)). C.
   diff negative
   - F/u Blood, sputum cultures.
   -Continue meropenem, vanco
   -Daily CBC with diff
   - Followup remaining OSH micro
   - If cx negative at 72h from today, will d/c antibiotics.
   .
   * Anemia - Very concentrated at initial presentation likely [**2-12**] third
   spacing. Hct now decreased. Transfused 1 unit overnight. Hemolysis
   unlikely as haptoglobin elevated, T bili normal.
   - Follow Hct
   - maintain active T+S
   - Guiac stools
   - Can check basic b12/folate/iron
   - D/w radiology if fluid in abdomen could be blood rather than fluid.
   .
   * Agitation
   Patient 10+ days out from last drink, therefore delirium tremens less
   likely. [**Month (only) 8**] be delirious from acute illness, medications, prolongued
   ICU stay, electrolyte disturbances (eg hypernatremia). Head CT here
   negative.
   - Haldol prn, check QTC
 has not needed given sedation
   - Hold neurontin
   - optimize sedation
   .
   * Alcohol and substance abuse
   - Social work consult
   - IV thiamine, MVT, folate
   .
   * DM
   - Continue insulin drip
   .
   * HTN
   - DC clonidine patch, holding home antihypertensives for now
   ICU Care
   Nutrition: -? why being fed if has pancreatitis. per surgery, ok to
   feed with post-pyloric tube. TF stopped around 1:30am - pending team
   decision.
 restarted this AM.
   Replete with Fiber (Full) - [**2114-8-24**] 04:40 AM 35 mL/hour
   Glycemic Control:  insulin drip
 will monitor FSBS. If not too
   elevated, will switch to SC insulin
   Lines:
   22 Gauge - [**2114-8-24**] 12:00 AM
   Multi Lumen Right IJ- [**2114-8-24**] 12:43 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: wife
   [**Name (NI) 156**] status: full code
   Disposition:ICU

2114-08-25 10:29:00 Physician Attending Progress Note
Chief Complaint: f/u pancreaitis
   HPI:
    39M w/ alcoholic pancreatitis, and respiratory failure.
   24 Hour Events:
 MULTI LUMEN - START [**2114-8-24**] 12:43 PM
 MULTI LUMEN - STOP [**2114-8-24**] 04:00 PM
 FEVER - 104.2
F - [**2114-8-24**] 07:00 PM
   Esophageal balloon placed- elevated Pplat attributed to abdominal
   displacement.
   PICC removed, tip sent for culture
   Continued to monitor bladder pressure, [**11-24**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2114-8-25**] 01:39 AM
   Vancomycin - [**2114-8-25**] 08:06 AM
   Infusions:
   Insulin - Regular - 0.5 units/hour
   Fentanyl (Concentrate) - 175 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2114-8-24**] 01:59 PM
   Fentanyl - [**2114-8-24**] 11:50 PM
   Heparin Sodium (Prophylaxis) - [**2114-8-25**] 08:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-8-25**] 09:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.1
C (104.2
   Tcurrent: 36.8
C (98.2
   HR: 86 (69 - 105) bpm
   BP: 113/65(76) {98/53(63) - 135/86(95)} mmHg
   RR: 19 (12 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 23 (6 - 23)mmHg
   Bladder pressure: 11 (9 - 15) mmHg
   Total In:
                                                                  6,294 mL
                                                                  1,332 mL
   PO:
   TF:
                                                                    417 mL
                                                                    169 mL
   IVF:
                                                                  3,691 mL
                                                                  1,163 mL
   Blood products:
                                                                    725 mL
   Total out:
                                                                  2,230 mL
                                                                    495 mL
   Urine:
                                                                  1,740 mL
                                                                    495 mL
   NG:
                                                                     90 mL
   Stool:
   Drains:
   Balance:
                                                                  4,064 mL
                                                                    837 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 14
   RR (Spontaneous): 6
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 31 cmH2O
   Plateau: 30 cmH2O
   SpO2: 100%
   ABG: 7.44/44/85.[**Numeric Identifier 299**]/25/4
   Ve: 11.3 L/min
   PaO2 / FiO2: 213
   Physical Examination
   Intubated, arousable to voice
   Regular S1,S2.  No m/r/g
   Lungs: CTA b/l.
   Abd: +bs. Distended.  Taunt.  Non-tender but limited due to intubated
   status. .
   1+ LE edema.
   Skin: No rahses or jaundice.
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.6 g/dL
   712 K/uL
   97 mg/dL
   0.5 mg/dL
   25 mEq/L
   4.0 mEq/L
   16 mg/dL
   102 mEq/L
   138 mEq/L
   28.9 %
   16.3 K/uL
        [image002.jpg] Ca 8.2, AST/ALT 59/ 24, lipase 94
                             [**2114-8-23**]  08:23 PM
                             [**2114-8-23**]  09:35 PM
                             [**2114-8-24**]  04:48 AM
                             [**2114-8-24**]  05:18 PM
                             [**2114-8-24**]  11:41 PM
                             [**2114-8-25**]  02:39 AM
   WBC
   14.0
   14.1
   16.3
   Hct
   24.0
   22.4
   23.0
   28.9
   Plt
   690
   675
   712
   Cr
   0.6
   0.6
   0.6
   0.5
   TCO2
   31
   31
   Glucose
   95
   81
   94
   97
   Other labs: PT / PTT / INR:12.6/24.7/1.1, ALT / AST:24/59, Alk Phos / T
   Bili:70/1.5, Amylase / Lipase:13/94, Differential-Neuts:71.0 %,
   Band:1.0 %, Lymph:17.0 %, Mono:10.0 %, Eos:1.0 %, Lactic Acid:0.8
   mmol/L, Albumin:2.8 g/dL, LDH:503 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.4 mg/dL
   Assessment and Plan
   39 M w/ alcoholic pancreaitis, severe, respiratory failure, b/l pleural
   effusions.
   Respiratory failure
 cont volume cycled ventilation given decreasing
   compliance and increasing intra-abd hypertension.  If stabilizes will
   transition to pressure support.   No evidence of gas exchange
   abnormality and patient over-breathing on the ventilator.
   Intra-abdominal hypertension
 stable at 11-14.  q4h.  Would d/w IR
   possibility of drainage of large collection if continues to rise.
   Hope would be to avoid abdominal release procedure.
   Pancreatitis
 continuing to monitor.  Continuous IVF.
   Fever
 likely [**2-12**] severe pancreatitis.  Follow up cultures.   If
   continues to trend up would re-consider drug as etiology.  If all
   cultures negative at 48h will plan to d/c antibiotics.
   Alcohol
 versed for w/d. Thiamine, folated.
   Anemia
  f/u hct.
   ICU Care
   Nutrition: TFs, post-pyloric.
   Glycemic Control:  ISS
   22 Gauge - [**2114-8-24**] 12:00 AM
   Multi Lumen - [**2114-8-24**] 12:43 PM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: PPI
   VAP: Bundle
   Comments:
   Communication:  Comments:
   Code status:  Full
   Disposition : ICU
   Total time spent:  35 minutes, patient is critically ill

2114-08-26 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 102.7
C - [**2114-8-26**] 02:00 AM
   -keeping balloon in for now to monitor pressures
   -pan cultured again for temp spike
   - continuing tube feeds as post-pyloric and data supports feeding
   pancreatitis pt
   - bladder pressure range 12-16 for day at 6pm
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2114-8-25**] 07:53 PM
   Meropenem - [**2114-8-26**] 01:25 AM
   Infusions:
   Insulin - Regular - 1 units/hour
   Midazolam (Versed) - 10 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-8-25**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-8-26**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 38.2
C (100.8
   HR: 99 (82 - 104) bpm
   BP: 122/78(88) {95/56(65) - 129/80(89)} mmHg
   RR: 21 (15 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 14 (6 - 27)mmHg
   Bladder pressure: 15 (12 - 16) mmHg
   Total In:
                                                                  3,455 mL
                                                                  1,404 mL
   PO:
   TF:
                                                                    610 mL
                                                                    264 mL
   IVF:
                                                                  2,445 mL
                                                                    280 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                  1,135 mL
   Urine:
                                                                  1,600 mL
                                                                  1,135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,855 mL
                                                                    269 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10, Hemodynamic Instability
   PIP: 28 cmH2O
   Plateau: 27 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 10.9 L/min
   Physical Examination
   General Young man intubated, aroused with voice
   HEENT Sclera anicteric
   Neck Supple
   Pulm Clear anteriorly b/l
   CV Tachycardic regular S1, split S2, no m/r/g
   Abd Mildly distended, active bowel sounds, did not grimace with
   palpation
   Extrem Warm, trace- 1+ edema in hands and feet, palpable distal pulses.
   legs symmetric
   Derm No rash or jaundice
   Labs / Radiology
   610 K/uL
   9.1 g/dL
   115 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.7 mEq/L
   12 mg/dL
   101 mEq/L
   135 mEq/L
   26.6 %
   12.1 K/uL
        [image002.jpg]
                             [**2114-8-23**]  08:23 PM
                             [**2114-8-23**]  09:35 PM
                             [**2114-8-24**]  04:48 AM
                             [**2114-8-24**]  05:18 PM
                             [**2114-8-24**]  11:41 PM
                             [**2114-8-25**]  02:39 AM
                             [**2114-8-26**]  04:23 AM
   WBC
   14.0
   14.1
   16.3
   12.1
   Hct
   24.0
   22.4
   23.0
   28.9
   26.6
   Plt
   690
   675
   712
   610
   Cr
   0.6
   0.6
   0.6
   0.5
   0.5
   TCO2
   31
   31
   Glucose
   95
   81
   94
   97
   115
   Other labs: PT / PTT / INR:12.6/24.7/1.1, ALT / AST:25/54, Alk Phos / T
   Bili:97/1.1, Amylase / Lipase:13/101, Differential-Neuts:82.0 %,
   Band:1.0 %, Lymph:7.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.8 g/dL, LDH:503 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.8
   mg/dL
   Sputum
 gram stain: no microorganisms, resp culture: pending
   BCx, Ucx
 pending
   Catheter tip
 no growth to date
   CXR - RLL atelectasis, bilateral pleural effusions
   Assessment and Plan
 PANCREATITIS, ACUTE
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALCOHOL ABUSE
   Mr. [**Known lastname 8276**] is a 39M with h/o DM and alcoholism and pancreatitis who is
   transferred for a higher level of care.
   .
   * Respiratory Failure
   Pt was intubated at OSH for respiratory distress.  Patient likely has
   functionally healthy lungs prior to hospitalization.  Barriers to
   extubation are the increased intraabdominal pressure from the
   pancreatitis, presence of bilateral pleural effusions.  Pt may require
   more PEEP given the increased intraabdominal pressure from edema.  Pt
   is very PEEP sensitive.
   -          continue on current vent settings
   -      Leave balloon in place given increasing plateau pressures
   -          monitor bladder pressure and UOP
   -          trial of PS at 15/10 when sedation is weaned down and
   patient is more awake
   .
   * Pancreatitis
 No evidence of necrosis on OSH imaging
 CT unchanged
   from OSH per radiology. Most likely precipitated by drinking binge
   consider also hypertriglyceridemia.
   - f/u surgery recs
   -monitor Abd exam for abdominal compartment syndrome
   -monitor bladder pressures, renal function, and UOP
   -continue IVF
   -Nutrition has been shown to be beneficial in pancreatitis
 continue
   tube feeds.
   .
   * Fever
 With persistent fevers up to 104 overnight. Most likely due
   to pancreatitis alone, but need to consider other causes in this man
   with extended ICU admission - both noninfectious (eg acalculous
   cholecystitis (LFTs normal), DVT (no asymmetry on exam), drug fever
   (may be due to meropenem)) and infectious (line infection (L IJ tip
   sent for culture), VAP (no evidence on CXR), UTI (UCx negative)). C.
   diff negative
   - F/u Blood, sputum cultures.
   - all cultures have been negative so far - discontinue meropenem, vanco
   - daily CBC with diff
   - Followup remaining OSH micro
   .
   * Anemia - Very concentrated at initial presentation likely [**2-12**] third
   spacing. Hct 26.6 this AM. Hemolysis unlikely as haptoglobin elevated,
   T bili normal.
   - Follow Hct
   - maintain active T+S
   - Guiac stools
   .
   * Agitation
   Patient 10+ days out from last drink, therefore delirium tremens less
   likely. [**Month (only) 8**] be delirious from acute illness, medications, prolongued
   ICU stay, electrolyte disturbances (eg hypernatremia). Head CT here
   negative.
   - plan to decrease sedation to better assess mental status and for
   trial of PS
   - Haldol prn, check QTC
 has not needed given sedation
   - Hold neurontin
   - optimize sedation
   .
   * Alcohol and substance abuse
   - Social work consult
   - IV thiamine, MVT, folate
   .
   * DM
   - Continue insulin sliding scale
   .
   * HTN
   - DC clonidine patch, holding home antihypertensives for now
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2114-8-25**] 10:47 PM 45 mL/hour
   Glycemic Control:  insulin sliding scale
   Lines:
   22 Gauge - [**2114-8-24**] 12:00 AM
   Multi Lumen - [**2114-8-24**] 12:43 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: wife
   [**Name (NI) 156**] status: full code
   Disposition:ICU

2114-08-26 10:58:00 Physician Attending Progress Note
Chief Complaint: f/u pancreatitis
   HPI:
   39M w/ alcoholic pancreatitis,c/b respiratory failure
   24 Hour Events:
 FEVER - 102.7
C - [**2114-8-26**] 02:00 AM
   Abd pressures [**11-26**]
   Resp compliance stable 26-30
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2114-8-26**] 01:25 AM
   Vancomycin - [**2114-8-26**] 08:00 AM
   Infusions:
   Insulin - Regular - 1 units/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-8-25**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-8-26**] 10:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.6
   Tcurrent: 38.3
C (100.9
   HR: 92 (82 - 104) bpm
   BP: 116/56(70) {95/56(65) - 129/80(89)} mmHg
   RR: 16 (15 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 13 (6 - 27)mmHg
   Bladder pressure: 15 (12 - 15) mmHg
   Total In:
                                                                  3,455 mL
                                                                  2,300 mL
   PO:
   TF:
                                                                    610 mL
                                                                    422 mL
   IVF:
                                                                  2,445 mL
                                                                    568 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                  1,335 mL
   Urine:
                                                                  1,600 mL
                                                                  1,335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,855 mL
                                                                    965 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 14
   RR (Spontaneous): 6
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 30 cmH2O
   SpO2: 96%
   ABG: ///27/
   Ve: 11.1 L/min
   Physical Examination
   Gen: Intubated, arousable to voice
   HEENT: PERRL.
   Card: Regular S1,S2.  No m/r/g
   Lungs: CTA b/l.
   Abd: +bs. Distended.  Taunt.  Non-tender but limited due to intubated
   status. .
   1+ LE edema.
   Skin: No rashes or jaundice.
   Neurologic: Sedated, does not follow commands.
   Labs / Radiology
   9.1 g/dL
   610 K/uL
   115 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.7 mEq/L
   12 mg/dL
   101 mEq/L
   135 mEq/L
   26.6 %
   12.1 K/uL
        [image002.jpg]
                             [**2114-8-23**]  08:23 PM
                             [**2114-8-23**]  09:35 PM
                             [**2114-8-24**]  04:48 AM
                             [**2114-8-24**]  05:18 PM
                             [**2114-8-24**]  11:41 PM
                             [**2114-8-25**]  02:39 AM
                             [**2114-8-26**]  04:23 AM
   WBC
   14.0
   14.1
   16.3
   12.1
   Hct
   24.0
   22.4
   23.0
   28.9
   26.6
   Plt
   690
   675
   712
   610
   Cr
   0.6
   0.6
   0.6
   0.5
   0.5
   TCO2
   31
   31
   Glucose
   95
   81
   94
   97
   115
   Other labs: PT / PTT / INR:12.6/24.7/1.1, ALT / AST:25/54, Alk Phos / T
   Bili:97/1.1, Amylase / Lipase:13/101, Differential-Neuts:82.0 %,
   Band:1.0 %, Lymph:7.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.8 g/dL, LDH:503 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   39 M w/ alcoholic pancreaitis, severe, respiratory failure, b/l pleural
   effusions.
   Respiratory failure
 compliance stable w/ plat pressures 24-30.  Only
   small bilateral pleural effusions.  No evidence of gas exchange
   abnormality and patient over-breathing on the ventilator.    Given
   stability of respiratory status will attempt to transition to pressure
   support.  Esophageal balloon remains in place in order to re-evaluate
   need for PEEP if respiratory system compliance further changes.
   Intra-abdominal hypertension
 stable at 11-16 over the last 24h.
   Continuing to monitor q4h. .    Renal function and urine output remain
   stable.
   Pancreatitis
 continuing to monitor.  Continuous IVF. No evidence of
   necrotizing process or clear pseudocyst formation (although still
   early) on prior CT.  Possibly IR drainage of large collection raised
   but would get surgical staff opinion on this as can be the beginning of
   a long course and they are often loathe to initate in the absence of
   sepsis.
   Fever
 likely [**2-12**] severe pancreatitis.  Follow up cultures, one set
   here (48h) and all OSH cultures negative so will plan to d/c
   vanc/[**Last Name (un) **].  Cont to follow cultures closley and may need to reinitiate
   if decompensates.
   Alcohol
 versed for w/d. Thiamine, folated.
   Anemia
  f/u hct.
 PANCREATITIS, ACUTE
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALCOHOL ABUSE
   ICU Care
   Nutrition: Replete with Fiber (Full) - [**2114-8-25**] 10:47 PM 45 mL/hour
   Glycemic Control:  Insulin SS
   Lines:
   22 Gauge - [**2114-8-24**] 12:00 AM
   Multi Lumen - [**2114-8-24**] 12:43 PM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer: H2
   VAP: Bundle
   Communication:  wife
   [**Name (NI) 156**] status:  Full
   Disposition : ICU
   Total time spent: 40

2114-08-27 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2114-8-26**] 09:30 AM
 URINE CULTURE - At [**2114-8-26**] 09:30 AM
 ARTERIAL LINE - START [**2114-8-26**] 05:13 PM
 FEVER - 103.6
C - [**2114-8-26**] 08:00 AM
   - tried on PS 17/10, doing well - Vt 500s, RR 17
   - A-line started
   - bladder pressure 13-14
   - requiring a lot of sedation - fentanyl 210, versed 10 (6 on
   admission)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2114-8-26**] 01:25 AM
   Vancomycin - [**2114-8-26**] 08:00 AM
   Infusions:
   Fentanyl (Concentrate) - 200 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-8-26**] 11:44 PM
   Midazolam (Versed) - [**2114-8-27**] 06:36 AM
   Fentanyl - [**2114-8-27**] 06:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-8-27**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.6
   Tcurrent: 36.9
C (98.5
   HR: 95 (79 - 108) bpm
   BP: 166/79(103) {109/58(75) - 176/81(304)} mmHg
   RR: 20 (11 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 8 (8 - 24)mmHg
   Bladder pressure: 12 (12 - 15) mmHg
   Total In:
                                                                  3,889 mL
                                                                    894 mL
   PO:
                                                                    100 mL
   TF:
                                                                  1,084 mL
                                                                    517 mL
   IVF:
                                                                    895 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                  3,355 mL
                                                                    370 mL
   Urine:
                                                                  3,055 mL
                                                                    370 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                    534 mL
                                                                    524 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 536 (0 - 704) mL
   PS : 17 cmH2O
   RR (Set): 14
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10, Hemodynamic Instability
   PIP: 26 cmH2O
   Plateau: 30 cmH2O
   SpO2: 100%
   ABG: 7.39/50/106/26/3
   Ve: 10.8 L/min
   PaO2 / FiO2: 265
   Physical Examination
   General: Intubated, sedated, not opening eyes or following commands,
   NAD
   HEENT- JVD to mid ear
   Pulm Clear anteriorly b/l
   CV Tachycardic regular S1, split S2, S3 gallop
   Abd Mildly distended, active bowel sounds, did not grimace with
   palpation
   Extrem Warm, trace- 1+ edema in hands and feet, palpable distal pulses.
   legs symmetric
   Labs / Radiology
   589 K/uL
   8.3 g/dL
   129 mg/dL
   0.4 mg/dL
   26 mEq/L
   4.1 mEq/L
   12 mg/dL
   101 mEq/L
   135 mEq/L
   24.7 %
   12.0 K/uL
        [image002.jpg]
                             [**2114-8-23**]  08:23 PM
                             [**2114-8-23**]  09:35 PM
                             [**2114-8-24**]  04:48 AM
                             [**2114-8-24**]  05:18 PM
                             [**2114-8-24**]  11:41 PM
                             [**2114-8-25**]  02:39 AM
                             [**2114-8-26**]  04:23 AM
                             [**2114-8-26**]  05:32 PM
                             [**2114-8-27**]  01:47 AM
                             [**2114-8-27**]  02:01 AM
   WBC
   14.0
   14.1
   16.3
   12.1
   12.0
   Hct
   24.0
   22.4
   23.0
   28.9
   26.6
   24.7
   Plt
   690
   675
   712
   610
   589
   Cr
   0.6
   0.6
   0.6
   0.5
   0.5
   0.4
   TCO2
   31
   31
   31
   31
   Glucose
   95
   81
   94
   97
   115
   129
   Other labs: PT / PTT / INR:12.6/24.7/1.1, ALT / AST:25/54, Alk Phos / T
   Bili:97/1.1, Amylase / Lipase:13/101, Differential-Neuts:82.0 %,
   Band:1.0 %, Lymph:7.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.8 g/dL, LDH:503 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.8
   mg/dL
   .
   Sputum
 gram stain: no microorganisms, resp culture: yeast
   [**8-25**], [**8-26**] BCx
 pending
   [**8-26**] urine cx- pending
   [**8-25**] urine cx neg
   [**8-24**] Catheter tip
 neg
   .
   CXR
 ET little low at 1.6cm from carina, (moved up 1 cm), RLL
   atelectasis, bilateral pleural effusions
   Assessment and Plan
   Mr. [**Known lastname 8276**] is a 39M with h/o DM and alcoholism and pancreatitis who is
   transferred for a higher level of care.
   .
   * Respiratory Failure
   Pt was intubated at OSH for respiratory distress but likely had
   functionally healthy lungs prior to hospitalization.  He tolerated
   CPAP/PS overnight at 17/10.  Barriers to extubation are the increased
   intraabdominal pressure from the pancreatitis, presence of bilateral
   pleural effusions, large PEEP requirement (sensitive given increased
   intraabd pressure), possible total body volume overload.  He is +7 L
   over his stay here but unknown how much fluid he received at the
   outside hospital.
   - weaned to CPAP/PS to [**12-18**] during rounds and will continue to wean as
   tolerated
   - remove esophageal balloon
   - monitor bladder pressure and UOP
   - wean sedation as tolerated
   - gently diurese for goal -500cc today
   .
   * Pancreatitis
 No evidence of necrosis on OSH imaging
 CT unchanged
   from OSH per radiology. Most likely precipitated by drinking binge
   consider also hypertriglyceridemia.
   - f/u surgery recs and discuss need for f/u imaging to assess for
   possible necrosis
   - clamp NG tube
   -continue IVF
   -continue tube feeds
   - monitor for signs of worsening including decreased UOP, hypotension,
   worsening abd distention, increased abd pressure (seen with bladder P),
   decreased hct or increasing WBC
   .
   * Fever
 With persistent fevers daily. Most likely due to pancreatitis
   alone, but need to consider other causes in this man with extended ICU
   admission - both noninfectious (eg acalculous cholecystitis (LFTs
   normal), DVT (no asymmetry on exam), drug fever (now off abx) and
   infectious (line infection (L IJ tip negative)), VAP (no evidence on
   CXR), UTI (UCx negative)). C. diff negative
   - F/u Blood, sputum cultures.
   - off abx as all cx have been neg so far
   - daily CBC with diff
   - Followup remaining OSH micro
   - use cooling blanket for temp>103-104
   .
   * Anemia - Very concentrated at initial presentation to OSH (hct 50)
   likely [**2-12**] third spacing. Hemolysis unlikely as haptoglobin elevated, T
   bili normal.
   - Follow Hct
   - maintain active T+S
   - Guiac stools
   - receiving folate
   .
   * Agitation
   Patient 10+ days out from last drink, therefore delirium tremens less
   likely. [**Month (only) 8**] be delirious from acute illness, medications, prolongued
   ICU stay, electrolyte disturbances. Head CT here negative.
   - plan to decrease sedation to better assess mental status and work
   towards weaning from vent
   - Haldol prn, check QTC
 has not needed given sedation
   - Hold neurontin
   .
   * Alcohol and substance abuse
   - Social work consult
   - IV thiamine, MVT, folate
   .
   * DM
   - Continue insulin sliding scale
   .
   * HTN
   - holding home antihypertensives for now
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2114-8-27**] 05:34 AM 80 mL/hour
   Glycemic Control:  insulin sliding scale
   Lines:
   22 Gauge - [**2114-8-24**] 12:00 AM
   Multi Lumen - [**2114-8-24**] 12:43 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: wife
   [**Name (NI) 156**] status: full code
   Disposition:ICU

2114-08-27 11:42:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Continues to experience daily fever.  No clinical signs of infection,
   now off antimicrobials.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2114-8-26**] 01:25 AM
   Vancomycin - [**2114-8-26**] 08:00 AM
   Infusions:
   Fentanyl (Concentrate) - 200 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2114-8-27**] 06:36 AM
   Fentanyl - [**2114-8-27**] 06:37 AM
   Heparin Sodium (Prophylaxis) - [**2114-8-27**] 08:26 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   ETT
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2114-8-27**] 11:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.7
C (103.5
   Tcurrent: 39.7
C (103.5
   HR: 122 (79 - 122) bpm
   BP: 164/72(100) {83/58(75) - 176/83(304)} mmHg
   RR: 20 (11 - 24) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 13 (8 - 24)mmHg
   Bladder pressure: 12 (12 - 15) mmHg
   Total In:
                                                                  3,889 mL
                                                                  1,493 mL
   PO:
                                                                    100 mL
   TF:
                                                                  1,084 mL
                                                                    823 mL
   IVF:
                                                                    895 mL
                                                                    370 mL
   Blood products:
   Total out:
                                                                  3,355 mL
                                                                    590 mL
   Urine:
                                                                  3,055 mL
                                                                    590 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                    534 mL
                                                                    903 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 456 (456 - 704) mL
   PS : 17 cmH2O
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10, Hemodynamic Instability
   PIP: 27 cmH2O
   SpO2: 98%
   ABG: 7.39/50/106/26/3
   Ve: 8.8 L/min
   PaO2 / FiO2: 265
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Not soft; firm, Non-tender, Hypoactive bowel sounds;
   Distended, Firm but not tense; No(t) Tender: ,
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   8.3 g/dL
   589 K/uL
   129 mg/dL
   0.4 mg/dL
   26 mEq/L
   4.1 mEq/L
   12 mg/dL
   101 mEq/L
   135 mEq/L
   24.7 %
   12.0 K/uL
        [image002.jpg]
                             [**2114-8-23**]  08:23 PM
                             [**2114-8-23**]  09:35 PM
                             [**2114-8-24**]  04:48 AM
                             [**2114-8-24**]  05:18 PM
                             [**2114-8-24**]  11:41 PM
                             [**2114-8-25**]  02:39 AM
                             [**2114-8-26**]  04:23 AM
                             [**2114-8-26**]  05:32 PM
                             [**2114-8-27**]  01:47 AM
                             [**2114-8-27**]  02:01 AM
   WBC
   14.0
   14.1
   16.3
   12.1
   12.0
   Hct
   24.0
   22.4
   23.0
   28.9
   26.6
   24.7
   Plt
   690
   675
   712
   610
   589
   Cr
   0.6
   0.6
   0.6
   0.5
   0.5
   0.4
   TCO2
   31
   31
   31
   31
   Glucose
   95
   81
   94
   97
   115
   129
   Other labs: PT / PTT / INR:12.6/24.7/1.1, ALT / AST:25/54, Alk Phos / T
   Bili:97/1.1, Amylase / Lipase:13/101, Differential-Neuts:82.0 %,
   Band:1.0 %, Lymph:7.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.8 g/dL, LDH:503 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   39 yom acute pancreaitis (EtOH), severe, complicated by respiratory
   failure.
   RESPIRATORY FAILURE -- compliance stable w/ plat pressures 24-30.
   Small bilateral pleural effusions.  Esophageal balloon remains in place
   in order to re-evaluate need for PEEP if respiratory system compliance
   further changes.  Continue mechanical ventilation.  Major obstacles to
   extubation include sedation, fluid resusitation and intraabdominal
   pressure/pain.
   INTRA-ABDOMINAL HTN -- Bladder pressures  stable at 11-16 over the last
   24h.  Continuing to monitor q4h.     Renal function and urine output
   remain stable.
   PANCREATITIS, ACUTE -- No clear evidence of necrotizing process or
   clear pseudocyst formation (although still early) on prior CT.  Surgery
   Consultation following. Consider repeat imaging in the event of
   clinical decline.
   FEVER -- attributed to severe pancreatitis.  Follow up cultures, one
   set here (48h) and all OSH cultures negative so will plan to d/c
   vanc/[**Last Name (un) **].  Cont to follow cultures closley and may need to reinitiate
   if decompensates.
   EtOH ABUSE -- remains on benzodiazepines while intubated, now beyond
   window for acute withdrawal and DTs.  Thiamine, folate.
   ANEMIA -- monitor serial Hct.  No evidence for acute blood loss.
   Transfuse to Hct >21.
   NUTRITIONAL SUPPORT
 tolerating trophic tube feeding
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2114-8-27**] 05:34 AM 80 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2114-8-24**] 12:00 AM
   Multi Lumen - [**2114-8-24**] 12:43 PM
   Arterial Line - [**2114-8-26**] 05:13 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Addendum:
   Meeting with patient
s wife and simultaneous telephone conversation
   with patient
s father (speaker phone).  Updated medical condition and
   answered all questions.  All understand severe medical condition and
   that patient remains critically ill.  To date, no evidence for
   complications of severe acute pancreatitis.  Plan to continue with
   current level of supportive care.
   ------ Protected Section Addendum Entered By:[**Name (NI) 275**] [**Last Name (NamePattern1) 276**], MD
   on:[**2114-8-27**] 17:20 ------

2114-08-28 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 103.5
F - [**2114-8-27**] 10:00 AM
   -Changed settings to PS [**12-18**] (i.e. decreased PEEP to 8) - then weaned
   to CPAP&PS: [**10-15**] at 1700.
   -Goal 500cc-1L negative:  Lasix gtt started at 6pm. --> +660cc @ MN.
   -CVP decreased
   -Esophageal balloon removed
   -Bladder pressures: 6 at 2300
   -Baseline weight:  155-160lbs
   -RSBI this AM: 70, currently on SBT-doing well.  Plan to extubate
   today.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2114-8-26**] 01:25 AM
   Vancomycin - [**2114-8-26**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl (Concentrate) - 175 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-8-27**] 02:00 PM
   Midazolam (Versed) - [**2114-8-28**] 01:00 AM
   Fentanyl - [**2114-8-28**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-8-28**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.7
C (103.5
   Tcurrent: 36.9
C (98.4
   HR: 100 (88 - 122) bpm
   BP: 106/81(92) {83/55(71) - 194/88(117)} mmHg
   RR: 21 (14 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.3 kg (admission): 78.8 kg
    CVP: 8 (6 - 14)mmHg
   Bladder pressure: 6 (6 - 12) mmHg
   Total In:
                                                                  3,398 mL
                                                                    975 mL
   PO:
   TF:
                                                                  1,863 mL
                                                                    555 mL
   IVF:
                                                                    645 mL
                                                                    140 mL
   Blood products:
   Total out:
                                                                  2,630 mL
                                                                    665 mL
   Urine:
                                                                  1,680 mL
                                                                    665 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    768 mL
                                                                    310 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 344 (328 - 468) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 70
   PIP: 15 cmH2O
   SpO2: 94%
   ABG: 7.43/46/128/28/5
   Ve: 8.8 L/min
   PaO2 / FiO2: 320
   Physical Examination
   General: Intubated, sedated, following commands, able to communicate by
   head motions
   HEENT- JVD to mid ear
   Pulm Clear anteriorly b/l
   CV Tachycardic regular S1, split S2, S3 gallop
   Abd Mildly distended, active bowel sounds, did not grimace with
   palpation
   Extrem Warm, trace- 1+ edema in hands and feet, palpable distal pulses.
   legs symmetric
   Labs / Radiology
   641 K/uL
   7.9 g/dL
   147 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.8 mEq/L
   9 mg/dL
   102 mEq/L
   142 mEq/L
   24.0 %
   12.3 K/uL
        [image002.jpg]
                             [**2114-8-24**]  05:18 PM
                             [**2114-8-24**]  11:41 PM
                             [**2114-8-25**]  02:39 AM
                             [**2114-8-26**]  04:23 AM
                             [**2114-8-26**]  05:32 PM
                             [**2114-8-27**]  01:47 AM
                             [**2114-8-27**]  02:01 AM
                             [**2114-8-27**]  03:00 PM
                             [**2114-8-28**]  03:07 AM
                             [**2114-8-28**]  03:24 AM
   WBC
   16.3
   12.1
   12.0
   12.3
   Hct
   23.0
   28.9
   26.6
   24.7
   24.0
   Plt
   [**Telephone/Fax (3) 8329**]41
   Cr
   0.6
   0.5
   0.5
   0.4
   0.4
   TCO2
   31
   31
   31
   32
   32
   Glucose
   94
   97
   115
   129
   147
   Other labs: PT / PTT / INR:12.6/24.7/1.1, ALT / AST:25/54, Alk Phos / T
   Bili:97/1.1, Amylase / Lipase:13/101, Differential-Neuts:84.2 %,
   Band:1.0 %, Lymph:8.8 %, Mono:5.2 %, Eos:1.4 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.8 g/dL, LDH:503 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.1
   mg/dL
   Ucx - negative
   BCx
 pending
   CXR
 ET tube is 2 cm from carina.  Increased vascular congestion,
   evidence of pulmonary edema, slight worsening of bilateral pleural
   effusion
   Assessment and Plan
 PANCREATITIS, ACUTE
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALCOHOL ABUSE
   Mr. [**Known lastname 8276**] is a 39M with h/o DM and alcoholism and pancreatitis who is
   transferred for a higher level of care.
   .
   * Respiratory Failure
   Pt was intubated at OSH for respiratory distress but likely had
   functionally healthy lungs prior to hospitalization.  He tolerated
   CPAP/PS overnight at 10/5.  Barriers to extubation are the increased
   intraabdominal pressure from the pancreatitis, presence of bilateral
   pleural effusions, large PEEP requirement (sensitive given increased
   intraabd pressure), possible total body volume overload.  He is +7 L
   over his stay here but unknown how much fluid he received at the
   outside hospital.    Pt was weaned to CPAP/PS to [**10-15**] overnight,
   tolerated SBT this AM well.
   - plan for extubation today
   - continue to monitor bladder pressure and UOP
   - restart lasix drip for goal fluid balance of -1 L to -2 L
   - wean sedation as tolerated
   .
   * Pancreatitis
 No evidence of necrosis on OSH imaging
 CT unchanged
   from OSH per radiology. Most likely precipitated by drinking binge
   consider also hypertriglyceridemia.  Abdominal exam is much improved
   this morning, softer, but can also be due to pt having many bowel
   movements.
   - repeat CT abdomen today to reassess pancreas
   - clamp NG tube
   - continue tube feeds
   - monitor for signs of worsening including decreased UOP, hypotension,
   worsening abd distention, increased abd pressure (seen with bladder P),
   decreased hct or increasing WBC
   .
   * Fever
 With persistent fevers daily. Most likely due to pancreatitis
   alone, but need to consider other causes in this man with extended ICU
   admission - both noninfectious (eg acalculous cholecystitis (LFTs
   normal), DVT (no asymmetry on exam), drug fever (now off abx) and
   infectious (line infection (L IJ tip negative)), VAP (no evidence on
   CXR), UTI (UCx negative)). C. diff negative
   - F/U blood cultures
   - No antibiotics unless something grows in cultures.  Cultures have all
   been negative to date.  Pt has already finished empiric course of
   antibiotics.
   - Use cooling blanket for temp>103-104
   .
   * Anemia - Very concentrated at initial presentation to OSH (hct 50)
   likely [**2-12**] third spacing. Hemolysis unlikely as haptoglobin elevated, T
   bili normal.  Hct today is 24.0 and stable.
   - monitor Hct daily
   - maintain active T+S
   - continue folate
   .
   * Agitation
   Patient 10+ days out from last drink, therefore delirium tremens less
   likely. [**Month (only) 8**] be delirious from acute illness, medications, prolongued
   ICU stay, electrolyte disturbances. Head CT here negative.
   - continue to wean sedation for better assessment of mental status
   - Haldol prn agitation
   - hold neurontin
   .
   * Alcohol and substance abuse
   - Social work consult
   - change thiamine, MVT, folate from IV to PO
   .
   * DM
   - Continue insulin sliding scale
   .
   * HTN
   - holding home antihypertensives for now
   .
   * Diarrhea
 patient putting out a lot of stool, likely due to
   receiving lactulose for last few days.  If diarrhea continues after
   lactulose has been held, will consider testing for C.diff
   - discontinue lactulose
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2114-8-27**] 05:34 AM 80 mL/hour
   Glycemic Control:  insulin sliding scale
   Lines:
   22 Gauge - [**2114-8-24**] 12:00 AM
   Multi Lumen - [**2114-8-24**] 12:43 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: wife
   [**Name (NI) 156**] status: full code
   Disposition:ICU

2114-08-28 10:21:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Favorable RSBI.  Tolerating SBT this AM.
   Bladder pressure lower.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2114-8-26**] 01:25 AM
   Vancomycin - [**2114-8-26**] 08:00 AM
   Infusions:
   Fentanyl (Concentrate) - 175 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2114-8-28**] 07:00 AM
   Fentanyl - [**2114-8-28**] 07:00 AM
   Heparin Sodium (Prophylaxis) - [**2114-8-28**] 07:56 AM
   Omeprazole (Prilosec) - [**2114-8-28**] 07:56 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2114-8-28**] 10:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.7
C (103.5
   Tcurrent: 37.4
C (99.4
   HR: 95 (88 - 122) bpm
   BP: 99/49(64) {87/49(64) - 194/88(117)} mmHg
   RR: 23 (15 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.3 kg (admission): 78.8 kg
   CVP: 7 (6 - 14)mmHg
   Bladder pressure: 6 (6 - 12) mmHg
                                Total In:
                                                                  3,398 mL
                                                                  1,277 mL
   PO:
                                TF:
                                                                  1,863 mL
                                                                    598 mL
   IVF:
                                                                    645 mL
                                                                    399 mL
   Blood products:
   Total out:
                                                                  2,630 mL
                                                                    930 mL
   Urine:
                                                                  1,680 mL
                                                                    930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    768 mL
                                                                    347 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 414 (328 - 468) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 70
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: 7.43/46/128/28/5
   Ve: 8.8 L/min
   PaO2 / FiO2: 320
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Non-tender, Bowel sounds present,
   Distended, No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.9 g/dL
   641 K/uL
   147 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.8 mEq/L
   9 mg/dL
   102 mEq/L
   142 mEq/L
   24.0 %
   12.3 K/uL
        [image002.jpg]
                             [**2114-8-24**]  05:18 PM
                             [**2114-8-24**]  11:41 PM
                             [**2114-8-25**]  02:39 AM
                             [**2114-8-26**]  04:23 AM
                             [**2114-8-26**]  05:32 PM
                             [**2114-8-27**]  01:47 AM
                             [**2114-8-27**]  02:01 AM
                             [**2114-8-27**]  03:00 PM
                             [**2114-8-28**]  03:07 AM
                             [**2114-8-28**]  03:24 AM
   WBC
   16.3
   12.1
   12.0
   12.3
   Hct
   23.0
   28.9
   26.6
   24.7
   24.0
   Plt
   [**Telephone/Fax (3) 8329**]41
   Cr
   0.6
   0.5
   0.5
   0.4
   0.4
   TCO2
   31
   31
   31
   32
   32
   Glucose
   94
   97
   115
   129
   147
   Other labs: PT / PTT / INR:12.6/24.7/1.1, ALT / AST:25/54, Alk Phos / T
   Bili:97/1.1, Amylase / Lipase:13/101, Differential-Neuts:84.2 %,
   Band:1.0 %, Lymph:8.8 %, Mono:5.2 %, Eos:1.4 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.8 g/dL, LDH:503 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
   39 yom acute pancreaitis (EtOH), severe, complicated by respiratory
   failure.
   RESPIRATORY FAILURE -- Good progress.  Continue mechanical ventilation,
   work towards extubation trial.  Major obstacles to extubation include
   sedation, fluid resusitation and intraabdominal pressure/pain.
   Continue to work towards extubation.
   INTRA-ABDOMINAL HTN -- Bladder pressures  stable at 11-16 over the last
   24h, now lower.  Continuing to monitor q4h.  Renal function and urine
   output remain stable.
   PANCREATITIS, ACUTE -- No clear evidence of necrotizing process or
   clear pseudocyst formation (although still early) on prior CT.  Surgery
   Consultation following. Consider repeat imaging in the event of
   clinical decline or General Surgery requests.
   FEVER -- attributed to severe pancreatitis.  Follow up cultures
   negative, so continue to monitor off antimicrobials (vanco/meropenim).
   Continue to monitor cultures closely and may need to resume
   antimicrobials in event of clinical decompensation.
   EtOH ABUSE -- remains on benzodiazepines while intubated, now beyond
   window for acute withdrawal and DTs.  Receivecd thiamine, folate.
   ANEMIA -- monitor serial Hct.  No evidence for acute blood loss.
   Transfuse to Hct >21.
   NUTRITIONAL SUPPORT
 tolerating trophic tube feeding
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-8-24**] 12:43 PM
   Arterial Line - [**2114-8-26**] 05:13 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2114-08-29 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 103.0
F - [**2114-8-28**] 03:00 PM
   -abd CT: unchanged peripancreatic fluid collections, nml parenchyma
   without signs of necrosis or calcification, worsening bilateral
   atelectasis and pleural effusions
   -diuresis goal: -1-2L for day
   -plan to extubate tomorrow b/c a little tachypnea, hypoxia and not
   quite alert tonight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2114-8-26**] 08:00 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Midazolam (Versed) - 7 mg/hour
   Fentanyl (Concentrate) - 175 mcg/hour
   Other ICU medications:
   Omeprazole (Prilosec) - [**2114-8-28**] 07:56 AM
   Heparin Sodium (Prophylaxis) - [**2114-8-29**] 12:00 AM
   Fentanyl - [**2114-8-29**] 04:00 AM
   Midazolam (Versed) - [**2114-8-29**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-8-29**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 37.6
C (99.7
   HR: 89 (89 - 125) bpm
   BP: 132/69(88) {98/48(64) - 182/88(110)} mmHg
   RR: 19 (16 - 33) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.3 kg (admission): 78.8 kg
    CVP: 7 (2 - 15)mmHg
   Total In:
                                                                  2,430 mL
                                                                  1,037 mL
   PO:
   TF:
                                                                  1,263 mL
                                                                    593 mL
   IVF:
                                                                    717 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  4,240 mL
                                                                  1,200 mL
   Urine:
                                                                  2,940 mL
                                                                    550 mL
   NG:
                                                                    500 mL
                                                                    450 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,810 mL
                                                                   -163 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 414 (0 - 414) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 64
   PIP: 15 cmH2O
   SpO2: 95%
   ABG: 7.47/48/106/31/9
   Ve: 9.7 L/min
   PaO2 / FiO2: 265
   Physical Examination
   General: Intubated, sedated, following commands, able to communicate by
   head motions
   HEENT- JVD to mid ear
   Pulm Clear anteriorly b/l
   CV Tachycardic regular S1, split S2, S3 gallop
   Abd Mildly distended, active bowel sounds, did not grimace with
   palpation
   Extrem Warm, trace- 1+ edema in hands and feet, palpable distal pulses.
   legs symmetric
   Labs / Radiology
   701 K/uL
   8.1 g/dL
   126 mg/dL
   0.4 mg/dL
   31 mEq/L
   3.9 mEq/L
   8 mg/dL
   98 mEq/L
   139 mEq/L
   23.9 %
   11.7 K/uL
        [image002.jpg]
                             [**2114-8-26**]  04:23 AM
                             [**2114-8-26**]  05:32 PM
                             [**2114-8-27**]  01:47 AM
                             [**2114-8-27**]  02:01 AM
                             [**2114-8-27**]  03:00 PM
                             [**2114-8-28**]  03:07 AM
                             [**2114-8-28**]  03:24 AM
                             [**2114-8-28**]  05:03 PM
                             [**2114-8-29**]  03:42 AM
                             [**2114-8-29**]  03:55 AM
   WBC
   12.1
   12.0
   12.3
   11.7
   Hct
   26.6
   24.7
   24.0
   23.9
   Plt
   [**Telephone/Fax (3) 8342**]01
   Cr
   0.5
   0.4
   0.4
   0.3
   0.4
   TCO2
   31
   31
   32
   32
   36
   Glucose
   115
   129
   147
   126
   Other labs: PT / PTT / INR:12.6/24.7/1.1, ALT / AST:25/54, Alk Phos / T
   Bili:97/1.1, Amylase / Lipase:13/101, Differential-Neuts:76.7 %,
   Band:1.0 %, Lymph:14.4 %, Mono:6.2 %, Eos:2.3 %, Lactic Acid:1.1
   mmol/L, Albumin:2.8 g/dL, LDH:503 IU/L, Ca++:8.1 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.2 mg/dL
   BCx
 pending
   CXR
 ET tube is 2.6 cm from carina.  Increased vascular congestion,
   evidence of pulmonary edema, slight worsening of bilateral pleural
   effusion
   Assessment and Plan
 PANCREATITIS, ACUTE
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALCOHOL ABUSE
   Mr. [**Known lastname 8276**] is a 39M with h/o DM and alcoholism and pancreatitis who is
   transferred for a higher level of care.
   .
   * Respiratory Failure
   Pt was intubated at OSH for respiratory distress but likely had
   functionally healthy lungs prior to hospitalization.  He tolerated
   CPAP/PS overnight at 10/5.  Barriers to extubation are the increased
   intraabdominal pressure from the pancreatitis, presence of bilateral
   pleural effusions, large PEEP requirement (sensitive given increased
   intraabd pressure), possible total body volume overload.  He is +7 L
   over his stay here but unknown how much fluid he received at the
   outside hospital.    Pt was weaned to CPAP/PS to [**10-15**] overnight,
   tolerated SBT this AM well.
   - plan for extubation today
   - continue to monitor bladder pressure and UOP
   - restart lasix drip for goal fluid balance of -1 L to -2 L
   - wean sedation as tolerated
   .
   * Pancreatitis
 No evidence of necrosis on OSH imaging
 CT unchanged
   from OSH per radiology. Most likely precipitated by drinking binge
   consider also hypertriglyceridemia.  Abdominal exam is much improved
   this morning, softer, but can also be due to pt having many bowel
   movements.
   - repeat CT abdomen today to reassess pancreas
   - clamp NG tube
   - continue tube feeds
   - monitor for signs of worsening including decreased UOP, hypotension,
   worsening abd distention, increased abd pressure (seen with bladder P),
   decreased hct or increasing WBC
   .
   * Fever
 With persistent fevers daily. Most likely due to pancreatitis
   alone, but need to consider other causes in this man with extended ICU
   admission - both noninfectious (eg acalculous cholecystitis (LFTs
   normal), DVT (no asymmetry on exam), drug fever (now off abx) and
   infectious (line infection (L IJ tip negative)), VAP (no evidence on
   CXR), UTI (UCx negative)). C. diff negative
   - F/U blood cultures
   - No antibiotics unless something grows in cultures.  Cultures have all
   been negative to date.  Pt has already finished empiric course of
   antibiotics.
   - Use cooling blanket for temp>103-104
   .
   * Anemia - Very concentrated at initial presentation to OSH (hct 50)
   likely [**2-12**] third spacing. Hemolysis unlikely as haptoglobin elevated, T
   bili normal.  Hct today is 24.0 and stable.
   - monitor Hct daily
   - maintain active T+S
   - continue folate
   .
   * Agitation
   Patient 10+ days out from last drink, therefore delirium tremens less
   likely. [**Month (only) 8**] be delirious from acute illness, medications, prolongued
   ICU stay, electrolyte disturbances. Head CT here negative.
   - continue to wean sedation for better assessment of mental status
   - Haldol prn agitation
   - hold neurontin
   .
   * Alcohol and substance abuse
   - Social work consult
   - change thiamine, MVT, folate from IV to PO
   .
   * DM
   - Continue insulin sliding scale
   .
   * HTN
   - holding home antihypertensives for now
   .
   * Diarrhea
 patient putting out a lot of stool, likely due to
   receiving lactulose for last few days.  If diarrhea continues after
   lactulose has been held, will consider testing for C.diff
   - discontinue lactulose
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2114-8-29**] 01:03 AM 80 mL/hour
   Glycemic Control:  insulin sliding scale
   Lines:
   22 Gauge - [**2114-8-24**] 12:00 AM
   Multi Lumen - [**2114-8-24**] 12:43 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: wife
   [**Name (NI) 156**] status: full code
   Disposition:ICU

2114-08-29 10:42:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubed, mechanicallly ventilated.
   Bladder pressure <10
   Much more awake this AM, appropriate.
   Tolerating spontaneous breathing trial.
   Afebrile this AM.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 1 mg/hour
   Fentanyl (Concentrate) - 175 mcg/hour
   Midazolam (Versed) - 7 mg/hour
   Other ICU medications:
   Fentanyl - [**2114-8-29**] 07:15 AM
   Lansoprazole (Prevacid) - [**2114-8-29**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2114-8-29**] 08:00 AM
   Midazolam (Versed) - [**2114-8-29**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2114-8-29**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 36.3
C (97.4
   HR: 116 (89 - 125) bpm
   BP: 200/90(121) {98/53(65) - 200/90(121)} mmHg
   RR: 24 (16 - 33) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82.9 kg (admission): 78.8 kg
   CVP: 4 (2 - 15)mmHg
   Total In:
                                                                  2,430 mL
                                                                  1,152 mL
   PO:
   TF:
                                                                  1,263 mL
                                                                    599 mL
   IVF:
                                                                    717 mL
                                                                    242 mL
   Blood products:
   Total out:
                                                                  4,240 mL
                                                                  2,415 mL
   Urine:
                                                                  2,940 mL
                                                                  1,715 mL
   NG:
                                                                    500 mL
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,810 mL
                                                                 -1,263 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 414 (0 - 414) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 64
   PIP: 7 cmH2O
   SpO2: 97%
   ABG: 7.47/48/106/31/9
   Ve: 9.5 L/min
   PaO2 / FiO2: 265
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.1 g/dL
   701 K/uL
   126 mg/dL
   0.4 mg/dL
   31 mEq/L
   3.9 mEq/L
   8 mg/dL
   98 mEq/L
   139 mEq/L
   23.9 %
   11.7 K/uL
        [image002.jpg]
                             [**2114-8-26**]  04:23 AM
                             [**2114-8-26**]  05:32 PM
                             [**2114-8-27**]  01:47 AM
                             [**2114-8-27**]  02:01 AM
                             [**2114-8-27**]  03:00 PM
                             [**2114-8-28**]  03:07 AM
                             [**2114-8-28**]  03:24 AM
                             [**2114-8-28**]  05:03 PM
                             [**2114-8-29**]  03:42 AM
                             [**2114-8-29**]  03:55 AM
   WBC
   12.1
   12.0
   12.3
   11.7
   Hct
   26.6
   24.7
   24.0
   23.9
   Plt
   [**Telephone/Fax (3) 8342**]01
   Cr
   0.5
   0.4
   0.4
   0.3
   0.4
   TCO2
   31
   31
   32
   32
   36
   Glucose
   115
   129
   147
   126
   Other labs: PT / PTT / INR:12.6/24.7/1.1, ALT / AST:25/54, Alk Phos / T
   Bili:97/1.1, Amylase / Lipase:13/101, Differential-Neuts:76.7 %,
   Band:1.0 %, Lymph:14.4 %, Mono:6.2 %, Eos:2.3 %, Lactic Acid:1.1
   mmol/L, Albumin:2.8 g/dL, LDH:503 IU/L, Ca++:8.1 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
   39 yom acute pancreaitis (EtOH), severe, complicated by respiratory
   failure.
   RESPIRATORY FAILURE -- Good progress.  Continue mechanical ventilation,
   tolerating SBT --> work towards extubation trial.  Major obstacles to
   extubation include sedation, fluid resusitation and intraabdominal
   pressure/pain.  Continue to work towards possible extubation trial
   today.
   HYPOXEMIA -- attributable to atalectasis, ARDS.  Monitor SaO2.
   INTRA-ABDOMINAL HTN -- Bladder pressures  stable <10.  Continuing to
   monitor q4h.  Renal function and urine output remain stable.
   PANCREATITIS, ACUTE -- Clinically resolving slowly.  No clear evidence
   of necrotizing process or clear pseudocyst formation (although still
   early) on CT yesterday.  Surgery Consultation following.
   METABOLIC ALKALOSIS
 predominately contraction, attributable to active
   diuresis and NG suctioning.  Plan replete Cl (as KCl) to goal HCO3 <
   28.
   FEVER -- attributed to severe pancreatitis.  Much improved this AM.
   Continue to monitor cultures closely and may need to resume
   antimicrobials in event of clinical decompensation.
   HTN
 optimize anti-HTN medication regimen.
   EtOH ABUSE -- remains on benzodiazepines while intubated, now beyond
   window for acute withdrawal and DTs.  Receivecd thiamine, folate.
   ANEMIA -- monitor serial Hct.  No evidence for acute blood loss.
   Transfuse to Hct >21.
   NUTRITIONAL SUPPORT
 tolerating trophic tube feeding @ goal.  Hold
   pending extubation.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-8-24**] 12:43 PM
   Arterial Line - [**2114-8-26**] 05:13 PM
   20 Gauge - [**2114-8-28**] 10:47 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending Addendum:
   Extubated this AM.  Able to protect airway, maintaining gas exchange.
   Good pain management.  Tolerating net diuresis.  Continue to monitor
   and provide current level of care.  Provided wife with updated medical
   information, plans and answered all questions.
   Total time providing critical care= 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 275**] [**Last Name (NamePattern1) 276**], MD
   on:[**2114-8-29**] 15:30 ------

2114-08-30 07:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2114-8-29**] 08:10 AM
   peripheral
 INVASIVE VENTILATION - STOP [**2114-8-29**] 10:50 AM
 ARTERIAL LINE - STOP [**2114-8-29**] 06:00 PM
 FEVER - 101.9
F - [**2114-8-29**] 11:00 AM
   .
   - extubated, oxygenating well
   - goal diuresis -2L
 lasix held at 5pm, continued to auto-diurese.
   - d/c fentanyl drip, started on morphine prn
   - given haldol 5 mg x 2, zyprexa 5 mg x 1 overnight for
   agitation/delirium
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2114-8-29**] 08:00 AM
   Midazolam (Versed) - [**2114-8-29**] 10:15 AM
   Fentanyl - [**2114-8-29**] 11:30 AM
   Hydromorphone (Dilaudid) - [**2114-8-29**] 06:35 PM
   Heparin Sodium (Prophylaxis) - [**2114-8-30**] 12:00 AM
   Haloperidol (Haldol) - [**2114-8-30**] 12:56 AM
   Morphine Sulfate - [**2114-8-30**] 06:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-8-30**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
 at 11AM on [**8-29**]
   Tcurrent: 37.9
C (100.3
   HR: 122 (100 - 147) bpm
   BP: 160/110(120) {117/63(75) - 176/135(146)} mmHg
    110s- 130s by NBP
   RR: 36 (21 - 38) insp/min
   SpO2: 96% 5L NC
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82.9 kg (admission): 78.8 kg
    CVP: 8 (4 - 12)mmHg
   Bladder pressure: 9 (9 - 10) mmHg
   Total In:
                                                                  2,027 mL
                                                                    273 mL
   PO:
   TF:
                                                                  1,016 mL
                                                                    100 mL
   IVF:
                                                                    571 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  4,113 mL
                                                                  1,470 mL
   Urine:
                                                                  3,263 mL
                                                                  1,320 mL
   NG:
                                                                    650 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,086 mL
                                                                 -1,197 mL
   Physical Examination
   General: Agitated, answers some Qs appropriately, making random
   comments
   Pulm Clear anteriorly b/l
   CV Tachycardic; murmurs or gallops difficult to assess as pt talked
   through exam.
   Abd Mildly distended, active bowel sounds, did not grimace with
   palpation
   Extrem Warm, trace- edema in hands and feet, 2+ distal pulses. legs
   symmetric
   Labs / Radiology
   719 K/uL
   8.8 g/dL
   149 mg/dL
   0.4 mg/dL
   30 mEq/L
   3.9 mEq/L
   5 mg/dL
   100 mEq/L
   140 mEq/L
   26.7 %
   16.7 K/uL
        [image002.jpg]
                             [**2114-8-27**]  03:00 PM
                             [**2114-8-28**]  03:07 AM
                             [**2114-8-28**]  03:24 AM
                             [**2114-8-28**]  05:03 PM
                             [**2114-8-29**]  03:42 AM
                             [**2114-8-29**]  03:55 AM
                             [**2114-8-29**]  10:14 AM
                             [**2114-8-29**]  11:33 AM
                             [**2114-8-29**]  04:39 PM
                             [**2114-8-30**]  03:53 AM
   WBC
   12.3
   11.7
   16.7
   Hct
   24.0
   23.9
   26.7
   Plt
   [**Telephone/Fax (3) 8365**]
   Cr
   0.4
   0.3
   0.4
   0.4
   0.4
   TCO2
   32
   32
   36
   32
   31
   Glucose
   147
   126
   97
   149
   Other labs:, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   .
   UA: few bacteria, moderate blood; rare mucous
   [**8-25**], [**8-26**], [**8-29**] BCx
 pending
   [**8-29**], [**8-30**] Ucx
 pending
   [**8-29**] Sputum
 pending
   .
   LENI: b/l DVTs
   .
   CTA: prelim
 segmental small PE; final read pending
   .
   CXR [**2114-8-30**]
 prelim: NGT in place.
   Assessment and Plan
 DELIRIUM / CONFUSION
 PANCREATITIS, ACUTE
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALCOHOL ABUSE
   .
   Mr. [**Known lastname 8276**] is a 39M with h/o DM and alcoholism and pancreatitis
   extubated yesterday and oxygenating well with increased agitation
   overnight
   .
   * Respiratory Failure
   Pt was extubated yesterday and continues to oxygenate well overnight.
   Continued oxygen requirement may be due increased intraabdominal
   pressure from the pancreatitis, presence of bilateral pleural
   effusions, possible total body volume overload although he was diuresed
   negative 3L, he is still +1.5L for stay but unknown how much fluid he
   received at the outside hospital and how much lost via insensible
   losses given fevers.  There were some concerns over possible ARDS given
   his low P/F ratio but PaO2 is at an acceptable level after extubation
   yesterday morning. Pt also has R pleural effusion.
   - Wean oxygen as tolerated
   - continue to monitor bladder pressure and UOP
   - goal fluid balance of 500cc-1 L negative : will hold lasix as he is
   auto-diuresing 80-200cc/hr. If not negative at midnight, will give
   lasix.
   .
   # DVT/PT
 LENIs today demonstrate b/l DVTs and CTA demonstrated
   segmental PE. Currently pt may be oxygenating well because of pleural
   effusion and no VQ mismatch given that he has decreased perfusion and
   ventilation.
   -will discuss possible thoracentesis tomorrow given that it may
   increase hypoxemia with VQ mismatch.
   -heparin drip (without bolus per surgery recs)
   .
   * Agitation
 Pt was acutely agitated overnight, requiring haldol x2
   and zyprexa x1. Patient 3 weeks out from last drink, therefore delirium
   tremens less likely. [**Month (only) 8**] be delirious from acute illness, medications,
   prolongued ICU stay, electrolyte disturbances. Head CT here negative.
   Also with DVT/PE, which may be contributing to agitation although he is
   not hypoxemic. Concern for benzo withdrawal given extended period of
   versed for sedation vs benzo intoxication from sedation.
   -Lorazepam 0.5-1 mg IV Q4H:PRN CIWA > 12 ; Nte HR will be elevated at
   baseline due to PE, pancreatitis. Please hold for sedation or RR<12.
   - Haldol prn agitation
 prior to giving haldol, will evaluate vitals,
   neuro exam, glucose, hypoxemia, metabolic acidosis, CNS infection
   -continue holding neurontin
   -EKG to evaluate for QT prolongation
   -wife at bedside to help with re-orientation
   .
   # Tachycardia
 Still with increased HR. [**Month (only) 8**] be due to pulmonary
   embolism, pancreatitis, fever, possible benzo withdrawal or combination
   of these.
   -address underlying issues
   -heparin drip for PE
   -lorazepam as above
   .
   * Fever
 Continues to spike fevers although not as high, most likely
   due to pancreatitis. WBC increased today to 16. Other considerations
   include both noninfectious (eg acalculous cholecystitis (LFTs normal),
   drug fever (now off abx) and infectious (line infection (L IJ tip
   negative)), VAP (no evidence on CXR), UTI (UCx negative)). Patient was
   C. diff negative earlier in hospital course. Also, may be due to
   DVT/PE. Also consider pneumonitis as pt just extubated.
   -CXR today.
   - F/U blood cultures
   - No antibiotics unless something grows in cultures.  Cultures have all
   been negative to date.
   - Use cooling blanket for temp if pt uncomfortable.
   - Send C. diff
   .
   * Pancreatitis
 CT abdomen showed no pancreatic necrosis.
   Pancreatitis likely precipitated by drinking [**Doctor First Name 8366**]. Hypertriglyceridemia
   may also be cause as TG elevated (only in 200s here), atlhough was 3000
   at OSH.  Abdominal exam is improved this morning, not as firm.  Pt
   pulled out his post-pyloric dobhoff.
   - replace NGT for gastric suction and feeds.
   - monitor for signs of worsening including decreased UOP, hypotension,
   worsening abd distention, increased abd pressure (seen with bladder P),
   decreased hct or increasing WBC
   -morphine and tylenol PRN for pain
   .
   * Anemia - Very concentrated at initial presentation to OSH (hct 50)
   likely [**2-12**] third spacing. Hemolysis unlikely as haptoglobin elevated, T
   bili normal.  Hct today is 26.7 and stable.
   - monitor Hct daily
   - maintain active T+S
   - continue folate
   .
   * Alcohol and substance abuse
   - Social work consult
   - continue thiamine, MVT, folate
   .
   * DM
   - Continue insulin sliding scale
   .
   * HTN
 BP remains elevated. Restarted cozaar yesterday.
   - restart HCTZ 25mg daily today
   .
   * Diarrhea
 diarrhea is much improved.  Was likely due to receiving
   lactulose for last few days. Pt continues to have diarrhea although not
   in large volumes.
   -Given fever and increased WBC, send C. diff
   ICU Care
   Nutrition: tube feeds via NGT
   Glycemic Control:  ISS
   Lines:
   Multi Lumen R IJ- [**2114-8-24**] 12:43 PM
 will try to place PICC and
   remove IJ
   20 Gauge - [**2114-8-28**] 10:47 AM
   Prophylaxis:
   DVT: heparin SC, pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: wife [**Name (NI) **]
   [**Name (NI) 156**] status: Full code
   Disposition: possible tx to SICU, awaiting conversation with surgical
   attending

2114-08-30 09:53:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated yesterday afternoon.  Remains intubated.
   Delierious overnight and remains delirious and confused this AM.
   Anxious and with tachypnea intermittently, but denies dyspnea.  No
   evidence for hypoxemia.
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2114-8-29**] 10:15 AM
   Fentanyl - [**2114-8-29**] 11:30 AM
   Hydromorphone (Dilaudid) - [**2114-8-29**] 06:35 PM
   Haloperidol (Haldol) - [**2114-8-30**] 12:56 AM
   Morphine Sulfate - [**2114-8-30**] 06:50 AM
   Heparin Sodium (Prophylaxis) - [**2114-8-30**] 08:38 AM
   Lansoprazole (Prevacid) - [**2114-8-30**] 08:38 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2114-8-30**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 38.3
C (101
   HR: 126 (106 - 147) bpm
   BP: 154/108(117) {117/63(75) - 176/135(146)} mmHg
   RR: 39 (21 - 39) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82.9 kg (admission): 78.8 kg
   CVP: 6 (4 - 12)mmHg
   Bladder pressure: 9 (9 - 10) mmHg
                                Total In:
                                                                  2,027 mL
                                                                    293 mL
   PO:
                                TF:
                                                                  1,016 mL
                                                                    100 mL
   IVF:
                                                                    571 mL
                                                                     93 mL
   Blood products:
   Total out:
                                                                  4,113 mL
                                                                  1,690 mL
   Urine:
                                                                  3,263 mL
                                                                  1,540 mL
   NG:
                                                                    650 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,086 mL
                                                                 -1,397 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 96%
   ABG: 7.44/44/131/30/5
   PaO2 / FiO2: 262
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , Crackles : scattered, No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.8 g/dL
   719 K/uL
   149 mg/dL
   0.4 mg/dL
   30 mEq/L
   3.9 mEq/L
   5 mg/dL
   100 mEq/L
   140 mEq/L
   26.7 %
   16.7 K/uL
        [image002.jpg]
                             [**2114-8-27**]  03:00 PM
                             [**2114-8-28**]  03:07 AM
                             [**2114-8-28**]  03:24 AM
                             [**2114-8-28**]  05:03 PM
                             [**2114-8-29**]  03:42 AM
                             [**2114-8-29**]  03:55 AM
                             [**2114-8-29**]  10:14 AM
                             [**2114-8-29**]  11:33 AM
                             [**2114-8-29**]  04:39 PM
                             [**2114-8-30**]  03:53 AM
   WBC
   12.3
   11.7
   16.7
   Hct
   24.0
   23.9
   26.7
   Plt
   [**Telephone/Fax (3) 8365**]
   Cr
   0.4
   0.3
   0.4
   0.4
   0.4
   TCO2
   32
   32
   36
   32
   31
   Glucose
   147
   126
   97
   149
   Other labs: PT / PTT / INR:12.6/24.7/1.1, ALT / AST:25/54, Alk Phos / T
   Bili:97/1.1, Amylase / Lipase:13/101, Differential-Neuts:76.7 %,
   Band:1.0 %, Lymph:14.4 %, Mono:6.2 %, Eos:2.3 %, Lactic Acid:1.1
   mmol/L, Albumin:2.8 g/dL, LDH:503 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
   39 yom acute pancreaitis (EtOH), severe, complicated by respiratory
   failure.
   RESPIRATORY FAILURE -- Good progress, now extubated.  Suspect component
   of ARDS.  Monitor RR, SaO2, maintain SaO2 >90%.
   HYPOXEMIA -- attributable to atalectasis, ARDS.  Concern for possible
   thromboembolic disease.  Monitor SaO2.
   TACHYCARDIA --  suspect multifactorial, including anxiety, hypovolemia
   (intravascular), withdrawal of medications, and EtOH (late phase of
   DTs).  Would check ECG.  Would obtain LE NIVS to assess for DVT.
   DELIRIUM -- suspect multifactorial including toxic-metabolic
   encephalopathy, medications (esp. narcotics), ICU psychosis, or
   EtOH-related.
   INTRA-ABDOMINAL HTN -- Bladder pressures  stable <10.  Continuing to
   monitor q4h.  Renal function and urine output remain stable.
   PANCREATITIS, ACUTE -- Clinically improving slowly.  No clear evidence
   of necrotizing process or clear pseudocyst formation (although still
   early) on repeat CT.  Surgery Consultation following.
   METABOLIC ALKALOSIS
 predominately contraction, attributable to active
   diuresis and NG suctioning.  Plan continue replete Cl (as KCl) to goal
   HCO3 < 28.
   FEVER -- attributed to severe pancreatitis.  Overall improved this AM.
   Continue to monitor cultures closely and may need to resume
   antimicrobials in event of clinical decompensation.   Check stool for
   C. diff.
   HTN
 optimize anti-HTN medication regimen.
   EtOH ABUSE -- remains on benzodiazepines while intubated, now beyond
   window for acute withdrawal and DTs (late).  Receivecd thiamine,
   folate.
   ANEMIA -- monitor serial Hct.  No evidence for acute blood loss.
   Transfuse to Hct >21.
   NUTRITIONAL SUPPORT
 tolerating  tube feeding @ goal.  Hold pending
   extubation.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-8-24**] 12:43 PM
   20 Gauge - [**2114-8-28**] 10:47 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2114-08-31 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2114-8-30**] 11:00 AM
   Leni's done at bedside shows bilateral DVT's per US tech. Pt scheduled
   for CTA. Compressions sleeves off.
 EKG - At [**2114-8-30**] 11:38 AM
 BLOOD CULTURED - At [**2114-8-30**] 08:00 PM
 BLOOD CULTURED - At [**2114-8-30**] 08:35 PM
   .
   [**8-30**]
   -LENI's positive for b/l DVT and CTA Chest (PRELIM): small pulmonary
   embolism
 started on heparin drip. No bolus given concern for possible
   hemorrhagic pancreatitis.
   .
   -Diurese goal -1L by autodiuresis: pt was -2L at 1800 and UOP started
   decreasing at 1800 (20-25cc/hr). At MN, he was -1.8L and bladder
   pressure was 14. UOP decreased to 25cc/hr. Abdomen soft. +870cc for LOS
   (minus insesible losses). BP 140s/90s, HR 110s. Given 500cc NS bolus.
   Bladder pressure 12 and UOP increased to 60-80cc/hr.
   .
   -[**8-29**] BCx positive for R IJ and peripherally for GPC - awaiting
   speciation. Given white count, fevers, we started vanco empirically
   .
   -PICC not placed; given + blood cultures, unlikely to be placed until
   cx negative
   .
   -Pt received test dose ativan and did well - consider benzo withdrawl
   given pt had lots of benzos with sedation. Pt started on CIWA scale
   with CIWA>12: ativan 0.5-1 mg IV Q4H:PRN . Pt did not require any
   ativan overnight. Per wife, he is more calm today. He did not sleep
   well so may be tired.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2114-8-30**] 08:21 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2114-8-30**] 08:38 AM
   Heparin Sodium (Prophylaxis) - [**2114-8-30**] 08:38 AM
   Heparin Sodium - [**2114-8-30**] 11:31 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-8-31**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.8
C (98.3
   HR: 111 (111 - 141) bpm
   BP: 153/102(114) {140/85(98) - 167/109(121)} mmHg
   RR: 36 (30 - 43) insp/min
   SpO2: 100%  5L NC
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 75.3 kg (admission): 78.8 kg
    Bladder pressure: 12 (11 - 14) mmHg
   Total In:
                                                                    777 mL
                                                                    686 mL
   PO:
   TF:
                                                                    100 mL
   IVF:
                                                                    577 mL
                                                                    686 mL
   Blood products:
   Total out:
                                                                  2,650 mL
                                                                    760 mL
   Urine:
                                                                  2,500 mL
                                                                    460 mL
   NG:
                                                                    150 mL
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,873 mL
                                                                    -74 mL
   Physical Examination
   General: Agitated, answers some Qs appropriately, making random
   comments
   Pulm Clear anteriorly b/l
   CV Tachycardic; murmurs or gallops difficult to assess as pt talked
   through exam.
   Abd Mildly distended, active bowel sounds, did not grimace with
   palpation
   Extrem Warm, trace- edema in hands and feet, 2+ distal pulses. legs
   symmetric
   Labs / Radiology
   823 K/uL
   8.8 g/dL
   131 mg/dL
   0.3 mg/dL
   29 mEq/L
   3.5 mEq/L
   9 mg/dL
   104 mEq/L
   144 mEq/L
   26.7 %
   15.7 K/uL
        [image002.jpg]
                             [**2114-8-28**]  05:03 PM
                             [**2114-8-29**]  03:42 AM
                             [**2114-8-29**]  03:55 AM
                             [**2114-8-29**]  10:14 AM
                             [**2114-8-29**]  11:33 AM
                             [**2114-8-29**]  04:39 PM
                             [**2114-8-30**]  03:53 AM
                             [**2114-8-30**]  01:59 PM
                             [**2114-8-30**]  02:03 PM
                             [**2114-8-31**]  04:01 AM
   WBC
   11.7
   16.7
   16.6
   15.7
   Hct
   23.9
   26.7
   25.9
   26.7
   Plt
   [**Telephone/Fax (3) 8393**]23
   Cr
   0.3
   0.4
   0.4
   0.4
   0.4
   0.3
   TCO2
   36
   32
   31
   Glucose
   126
   97
   149
   140
   131
   Other labs: PTT: 31.4
   Differential-Neuts:82.5 %, Band:1.0 %, Lymph:10.7 %, Mono:6.5 %,
   Eos:0.2 %,
   Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:4.8 mg/dL
   .
   [**8-25**], [**8-26**], BCx - NGTD
   [**8-29**] BCx
 CVL and peripheral
 GPC in pairs/clusters
   [**8-30**] BCx
 CVL and peripheral - pending
   [**8-29**] UCx
 no growth
   [**8-30**] Ucx
 pending
   [**8-29**] Sputum
 SPARSE GROWTH OROPHARYNGEAL FLORA
   C. diff
 not sent
   .
   LENI: b/l DVTs
   .
   CTA [**2114-8-30**]: FINAL
   1)Lower lobe subsegmental pulmonary embolism.
   2)Large left pleural effusion with near-complete collapse of the left
   lower lobe and right lower lobe atelectasis and small
   pleural effusion.
   3)Large pseudocyst has slightly decreased in size since the previous
   abdominal  study and now measures 6.9 x 10 cm.
   .
   CXR [**2114-8-31**]
 none
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE
 DELIRIUM / CONFUSION
 PANCREATITIS, ACUTE
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALCOHOL ABUSE
   .
   Mr. [**Known lastname 8276**] is a 39M with h/o DM and alcoholism and pancreatitis, DVT and
   PE, extubated but with continued oxygen requirement, calm overnight
   after test dose of ativan.
   .
   * Respiratory Failure
 pt continues to be on 5L NC.  Continued oxygen
   requirement may be due increased intraabdominal pressure from the
   pancreatitis given elevated bladder pressure although UOP remains
   60-80cc/hr, PE, or presence of bilateral pleural effusions. Volume
   overload less likely as pt auto-diuresed yesterday and required fluids
   back for low UOP. He is still +830cc for stay but unknown how much
   fluid he received at the outside hospital and how much lost via
   insensible losses given fevers.
   - Discussed thoracentesis: PE and pleural effusion are on same side, so
   VQ is matched. If we do thoracentesis, this may cause VQ mismatch and
   pt could develop hypoxemia. Per IP attending - in setting of PE, it's
   much more important to anti-coagulate than drain thoracentesis,
   although in the long run, it will be more beneficial to remove effusion
   to prevent lung trapping. IP will revisit this and get back to us.
   - Goal fluid balance of even today given that pt
s UOP is decreasing.
   If he becomes negative, give back fluids.
   - Heparin drip for PE
 monitor PTT
   - Wean oxygen as tolerated
   - Continue to monitor bladder pressure and UOP
   .
   # Sepsis
 pt meets SIRS criteria by HR, RR, WBC count. Now with GPC
   bacteremia in BCx from central venous line and peripheral site.
   Unlikely to be skin contaminant given that it is in two places.
   -Empirically started on vancomycin pending speciation
   -Place 2 PIV and remove R internal jugular CVL.
   -F/u Bcx from [**8-30**]; New cx from [**8-31**]
   .
   # DVT/PT
 LENIs yesterday demonstrate b/l DVTs and CTA demonstrated
   segmental PE. Currently pt may be maintaining good O2 saturation
   because of pleural effusion and no VQ mismatch given that he has
   decreased perfusion and ventilation, as above.
   -heparin drip (without bolus per surgery recs) given concern for
   hemorrhagic pancreatitis
   -Goal PTT 60-80
   .
   * Agitation
 Pt placed on CIWA scale given that he did well with test
   dose of ativan, suggesting he may be having benzo withdrawal from
   benzos received for sedation. He is more calm overnight although he
   required no ativan.  Patient 3 weeks out from last drink, therefore
   delirium tremens less likely. [**Month (only) 8**] be delirious from sepsis,
   pancreatitis, medications, prolongued ICU stay, electrolyte
   disturbances. Also with DVT/PE, which may be contributing to agitation
   as he is hypoxic although O2 sats ok. Head CT here negative.
   -Lorazepam 0.5-1 mg IV Q4H:PRN CIWA > 12 ; Note HR will be elevated at
   baseline due to PE, pancreatitis. Please hold for sedation or RR<12.
   - Haldol prn agitation if ativan does not work
 prior to giving
   haldol, will evaluate vitals, neuro exam, glucose, hypoxemia, metabolic
   acidosis, CNS infection.
   -OOB to chair today
   -continue holding neurontin
   -wife at bedside to help with re-orientation
   -Continue to monitor closely.
   .
   # Tachycardia
 Still with increased HR. [**Month (only) 8**] be due to sepsis,
   pulmonary embolism, pancreatitis, fever, possible benzo withdrawal or
   combination of these.
   -address underlying issues as above
   .
   * Fever
 Fevers decreasing with Tmax 100.5 yesterday. WBC decreased
   today to 15.7 (16.6 yesterday). [**Month (only) 8**] be due to sepsis, pancreatitis, or
   DVT/PE. Patient was C. diff negative earlier in hospital course, but
   second sample pending. Also consider pneumonitis as pt just extubated.
   - F/u blood cultures
   - Continue vancomycin.
   - Use cooling blanket for temp if pt uncomfortable.
   - Send C. diff
   .
   * Pancreatitis
 CT abdomen showed no pancreatic necrosis.
   Pancreatitis likely precipitated by drinking [**Doctor First Name 8366**]. Hypertriglyceridemia
   may also be cause as TG elevated (only in 200s here), atlhough was 3000
   at OSH.  Abdominal exam is improved this morning, not as firm.  Pt
   pulled out his post-pyloric dobhoff and NGT placed yesterday.
   - Place NGT for gastric suction. Still suctioning quite a bit (300cc
   since MN).
   - Currently holding feeds pending amount suctioned from NGT.
   - Replace NGT with dobhoff (IR or surgery) once amount suctioned
   decreases
   - monitor for signs of worsening including decreased UOP, hypotension,
   worsening abd distention, increased abd pressure (seen with bladder P),
   decreased hct or increasing WBC
   -morphine and tylenol PRN for pain although pt has not needed these.
   .
   * HTN
 BP remains elevated. Restarted cozaar and HCTZ.  HCTZ will take
   time to work and pt may still be in pain, also with PE
s, pancreatitis.
   Also question of absorbing medications.
   -Team felt that pt most likely absorbing meds
   -monitor BP for now.
   -if SBP>170, give 5-10mg IV hydralazine
   .
   * Anemia -  Hct today is 26.7 and stable.
   - monitor Hct daily
   - maintain active T+S
   - continue folate
   .
   * Diarrhea
 Pt continues to have some stool output. Diarrhea
   attributed to receiving lactulose but now with elevated WBC.
   -Given fever and increased WBC, send C. diff
   .
   * Alcohol and substance abuse
 Social work consult; continue thiamine,
   MVT, folate
   .
   * DM - Continue insulin sliding scale
   ICU Care
   Nutrition: currently NPO; not getting tube feeds.  As there is still
   large amt being suctioned from NGT, will hold tube feeds for one more
   day. Will d/w IR vs surgery about placing post-pyloric dobhoff once
   amount from NGT decreases
   Glycemic Control:   ISS
   Lines:
   Multi Lumen R IJ- [**2114-8-24**] 12:43 PM
 will d/c today and place 2 PIV;
   Unlikely to get PICC now that BCx are positive. Will readdress when BCx
   return negative.
   20 Gauge - [**2114-8-28**] 10:47 AM
   Prophylaxis:
   DVT (treatment): heparin drip
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: wife [**Name (NI) **]
   [**Name (NI) 156**] status: Full code
   Disposition: ICU ; no tx to SICu at this time
   ------ Protected Section ------
   PE [**2114-8-31**] (disregard Physical exam above):
   General: Pt calm on exam, (not agitated); still slow to respond to
   questions
   Pulm: clear anteriorly
   Cardiac exam: tachycardic, extra heart sound (split S2 vs gallop?),
   difficult to assess given tachycardia
   Abd: mildly distended, active BS, pt did not grimace with deep
   palpation
   Extrem: without edema in all 4 extremities, warm, well perfused, 2+ DP
   b/l, legs symmetric
   ------ Protected Section Addendum Entered By:[**Name (NI) 1588**] [**Last Name (NamePattern1) 8328**], MD
   on:[**2114-8-31**] 10:46 ------

2114-08-31 10:10:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains extubated.
   Evidence for bilateral DVTs and left lung embolism (subsegmental)
   Awake, alert.  Confusion less pronounced, although remains disoriented.
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2114-8-31**] 07:35 AM
   Infusions:
   Heparin Sodium - 1,800 units/hour
   Other ICU medications:
   Heparin Sodium - [**2114-8-31**] 08:54 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2114-8-31**] 10:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.3
C (99.2
   HR: 105 (105 - 141) bpm
   BP: 152/97(109) {140/85(98) - 167/109(121)} mmHg
   RR: 33 (30 - 43) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 75.3 kg (admission): 78.8 kg
   Bladder pressure: 11 (11 - 14) mmHg
   Total In:
                                                                    777 mL
                                                                  1,001 mL
   PO:
   TF:
                                                                    100 mL
   IVF:
                                                                    577 mL
                                                                  1,001 mL
   Blood products:
   Total out:
                                                                  2,650 mL
                                                                  1,025 mL
   Urine:
                                                                  2,500 mL
                                                                    625 mL
   NG:
                                                                    150 mL
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,873 mL
                                                                   -174 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal, Some psychomotor retardation
   Labs / Radiology
   8.8 g/dL
   823 K/uL
   131 mg/dL
   0.3 mg/dL
   29 mEq/L
   3.5 mEq/L
   9 mg/dL
   104 mEq/L
   144 mEq/L
   26.7 %
   15.7 K/uL
        [image002.jpg]
                             [**2114-8-28**]  05:03 PM
                             [**2114-8-29**]  03:42 AM
                             [**2114-8-29**]  03:55 AM
                             [**2114-8-29**]  10:14 AM
                             [**2114-8-29**]  11:33 AM
                             [**2114-8-29**]  04:39 PM
                             [**2114-8-30**]  03:53 AM
                             [**2114-8-30**]  01:59 PM
                             [**2114-8-30**]  02:03 PM
                             [**2114-8-31**]  04:01 AM
   WBC
   11.7
   16.7
   16.6
   15.7
   Hct
   23.9
   26.7
   25.9
   26.7
   Plt
   [**Telephone/Fax (3) 8393**]23
   Cr
   0.3
   0.4
   0.4
   0.4
   0.4
   0.3
   TCO2
   36
   32
   31
   Glucose
   126
   97
   149
   140
   131
   Other labs: PT / PTT / INR:12.6/41.4/1.1, ALT / AST:25/54, Alk Phos / T
   Bili:97/1.1, Amylase / Lipase:13/101, Differential-Neuts:82.5 %,
   Band:1.0 %, Lymph:10.7 %, Mono:6.5 %, Eos:0.2 %, Lactic Acid:1.1
   mmol/L, Albumin:2.8 g/dL, LDH:503 IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.8 mg/dL
   Assessment and Plan
   39 yom acute pancreaitis (EtOH), severe, complicated by bacteremia
   (line-related) and thromboembolic disease.
   RESPIRATORY DISTRESS -- Mild.  Remains extubated.  Attributed to
   pulmonary embolism, and suspect component of ARDS.  COntinue heparin.
   Monitor RR, SaO2, maintain SaO2 >90%.  Continue incentive spirometry to
   attempt reexpansion of LLL.
   THROMBOEMBOLIC DISEASE -- likely developed in context of severe illness
   (acute pancreatitis) and immobilization, despite prophylaxis.  Continue
   heparin, maintain PTT 60-80.
   HYPOXEMIA -- attributable to atalectasis, ARDS.  Concern for possible
   thromboembolic disease.  Monitor SaO2.
   LLL ATALECTASIS -- possible related to left effusion, and possible LLL
   embolism.  Hope to perform left thoracentesis when able to do safely.
   Incentive spirometry.
   TACHYCARDIA --  suspect multifactorial, including pulmonary embolism,
   anxiety, hypovolemia (intravascular), withdrawal of medications, and
   EtOH (late phase of DTs).
   DELIRIUM -- suspect multifactorial including toxic-metabolic
   encephalopathy, bacteremia, medications (esp. narcotics), ICU
   psychosis, or EtOH-related.  Slowly improving.  If no improvement, then
   initiate neurological evaluation (head CT, +/- LP, EEG).
   BACTEREMIA -- likely line-related infection.  A-line previously d/c'd.
   Would hope to d/c central line.  Continue VANCO.
   INTRA-ABDOMINAL HTN -- Bladder pressures  stable <20.  Continuing to
   monitor qd.  Renal function and urine output remain stable.
   PANCREATITIS, ACUTE -- Clinically improving slowly.  Evidence for
   pseudocyst formation on CT scan.  Surgery Consultation following.
   METABOLIC ALKALOSIS
 predominately contraction, attributable to active
   diuresis and NG suctioning.  Plan continue replete Cl (as KCl) to goal
   HCO3 < 28.
   FEVER -- attributed to severe pancreatitis, but also component of
   bacteremia.  Overall improved this AM.  Continue to monitor cultures
   closely.
   HTN
 optimize anti-HTN medication regimen.
   EtOH ABUSE -- received benzodiazepines while intubated, now beyond
   window for acute withdrawal and DTs (late).  Receivecd thiamine,
   folate.
   ANEMIA -- monitor serial Hct.  No evidence for acute blood loss.
   Transfuse to Hct >21.
   NUTRITIONAL SUPPORT
 holding for large NG output via NG tube.  Would
   consider replacement of distal feeding tube.  Would not  initiate TPN
   until bacteremia treatment intiiated.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-8-24**] 12:43 PM
   20 Gauge - [**2114-8-28**] 10:47 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2114-09-01 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2114-8-31**] 10:20 AM
   r ij tlcl
 BLOOD CULTURED - At [**2114-8-31**] 10:20 AM
   peripheral
 STOOL CULTURE - At [**2114-8-31**] 10:49 AM
   from flexiseal
 MULTI LUMEN - STOP [**2114-8-31**] 12:00 PM
   -PT/OT consulted as pt has commercial insurance payer and will likely
   need rehab in extended care facility after d/c
   - 300 cc residuals during the day
   - auto-diuresed to total day -553 cc by 11pm (although goal even)
   - bladder pressure [**11-24**] at throughout day (14 at 11pm)
   - given 500cc bolus of NS at midnight for low UOP (25cc/hr x 2 hours)
   - neg c diff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2114-8-31**] 08:02 PM
   Infusions:
   Heparin Sodium - 2,250 units/hour
   Other ICU medications:
   Heparin Sodium - [**2114-8-31**] 08:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-9-1**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 96 (96 - 116) bpm
   BP: 156/96(110) {135/90(101) - 161/108(119)} mmHg
   RR: 29 (23 - 37) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.2 kg (admission): 78.8 kg
    Bladder pressure: 13 (11 - 14) mmHg
   Total In:
                                                                  1,933 mL
                                                                    728 mL
   PO:
   TF:
   IVF:
                                                                  1,683 mL
                                                                    728 mL
   Blood products:
   Total out:
                                                                  2,455 mL
                                                                    430 mL
   Urine:
                                                                  1,655 mL
                                                                    280 mL
   NG:
                                                                    550 mL
                                                                    150 mL
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                   -522 mL
                                                                    298 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   General: Agitated, answers some Qs appropriately, making random
   comments
   Pulm Clear anteriorly b/l
   CV Tachycardic; murmurs or gallops difficult to assess as pt talked
   through exam.
   Abd Mildly distended, active bowel sounds, did not grimace with
   palpation
   Extrem Warm, trace- edema in hands and feet, 2+ distal pulses. legs
   symmetric
   Labs / Radiology
   819 K/uL
   8.8 g/dL
   131 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.3 mEq/L
   14 mg/dL
   104 mEq/L
   143 mEq/L
   25.8 %
   15.3 K/uL
        [image002.jpg]
                             [**2114-8-29**]  03:42 AM
                             [**2114-8-29**]  03:55 AM
                             [**2114-8-29**]  10:14 AM
                             [**2114-8-29**]  11:33 AM
                             [**2114-8-29**]  04:39 PM
                             [**2114-8-30**]  03:53 AM
                             [**2114-8-30**]  01:59 PM
                             [**2114-8-30**]  02:03 PM
                             [**2114-8-31**]  04:01 AM
                             [**2114-9-1**]  03:04 AM
   WBC
   11.7
   16.7
   16.6
   15.7
   15.3
   Hct
   23.9
   26.7
   25.9
   26.7
   25.8
   Plt
   [**Telephone/Fax (3) 8393**]23
   819
   Cr
   0.4
   0.4
   0.4
   0.4
   0.3
   0.5
   TCO2
   36
   32
   31
   Glucose
   126
   97
   149
   140
   131
   131
   Other labs: PT / PTT / INR:14.6/57.0/1.3, ALT / AST:25/54, Alk Phos / T
   Bili:97/1.1, Amylase / Lipase:13/101, Differential-Neuts:82.5 %,
   Band:1.0 %, Lymph:10.7 %, Mono:6.5 %, Eos:0.2 %, Lactic Acid:1.1
   mmol/L, Albumin:2.8 g/dL, LDH:503 IU/L, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.4 mg/dL
   C diff
 negative
   Central line tip
 pending
   BCx (8/20,21)
 pending
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE
 DELIRIUM / CONFUSION
 PANCREATITIS, ACUTE
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALCOHOL ABUSE
   Mr. [**Known lastname 8276**] is a 39M with h/o DM and alcoholism and pancreatitis, DVT and
   PE, extubated but with continued oxygen requirement, calm overnight
   after test dose of ativan.
   .
   * Respiratory Failure
 pt continues to be on 5L NC.  Continued oxygen
   requirement may be due increased intraabdominal pressure from the
   pancreatitis given elevated bladder pressure although UOP remains
   60-80cc/hr, PE, or presence of bilateral pleural effusions. Volume
   overload less likely as pt auto-diuresed yesterday and required fluids
   back for low UOP. He is still +830cc for stay but unknown how much
   fluid he received at the outside hospital and how much lost via
   insensible losses given fevers.
   - Discussed thoracentesis: PE and pleural effusion are on same side, so
   VQ is matched. If we do thoracentesis, this may cause VQ mismatch and
   pt could develop hypoxemia. Per IP attending - in setting of PE, it's
   much more important to anti-coagulate than drain thoracentesis,
   although in the long run, it will be more beneficial to remove effusion
   to prevent lung trapping. IP will revisit this and get back to us.
   - Goal fluid balance of even today given that pt
s UOP is decreasing.
   If he becomes negative, give back fluids.
   - Heparin drip for PE
 monitor PTT
   - Wean oxygen as tolerated
   - Continue to monitor bladder pressure and UOP
   .
   # Sepsis
 pt meets SIRS criteria by HR, RR, WBC count. Now with GPC
   bacteremia in BCx from central venous line and peripheral site.
   Unlikely to be skin contaminant given that it is in two places.
   -Empirically started on vancomycin pending speciation
   -Place 2 PIV and remove R internal jugular CVL.
   -F/u Bcx from [**8-30**]; New cx from [**8-31**]
   .
   # DVT/PT
 LENIs yesterday demonstrate b/l DVTs and CTA demonstrated
   segmental PE. Currently pt may be maintaining good O2 saturation
   because of pleural effusion and no VQ mismatch given that he has
   decreased perfusion and ventilation, as above.
   -heparin drip (without bolus per surgery recs) given concern for
   hemorrhagic pancreatitis
   -Goal PTT 60-80
   .
   * Agitation
 Pt placed on CIWA scale given that he did well with test
   dose of ativan, suggesting he may be having benzo withdrawal from
   benzos received for sedation. He is more calm overnight although he
   required no ativan.  Patient 3 weeks out from last drink, therefore
   delirium tremens less likely. [**Month (only) 8**] be delirious from sepsis,
   pancreatitis, medications, prolongued ICU stay, electrolyte
   disturbances. Also with DVT/PE, which may be contributing to agitation
   as he is hypoxic although O2 sats ok. Head CT here negative.
   -Lorazepam 0.5-1 mg IV Q4H:PRN CIWA > 12 ; Note HR will be elevated at
   baseline due to PE, pancreatitis. Please hold for sedation or RR<12.
   - Haldol prn agitation if ativan does not work
 prior to giving
   haldol, will evaluate vitals, neuro exam, glucose, hypoxemia, metabolic
   acidosis, CNS infection.
   -OOB to chair today
   -continue holding neurontin
   -wife at bedside to help with re-orientation
   -Continue to monitor closely.
   .
   # Tachycardia
 Still with increased HR. [**Month (only) 8**] be due to sepsis,
   pulmonary embolism, pancreatitis, fever, possible benzo withdrawal or
   combination of these.
   -address underlying issues as above
   .
   * Fever
 Fevers decreasing with Tmax 100.5 yesterday. WBC decreased
   today to 15.7 (16.6 yesterday). [**Month (only) 8**] be due to sepsis, pancreatitis, or
   DVT/PE. Patient was C. diff negative earlier in hospital course, but
   second sample pending. Also consider pneumonitis as pt just extubated.
   - F/u blood cultures
   - Continue vancomycin.
   - Use cooling blanket for temp if pt uncomfortable.
   - Send C. diff
   .
   * Pancreatitis
 CT abdomen showed no pancreatic necrosis.
   Pancreatitis likely precipitated by drinking [**Doctor First Name 8366**]. Hypertriglyceridemia
   may also be cause as TG elevated (only in 200s here), atlhough was 3000
   at OSH.  Abdominal exam is improved this morning, not as firm.  Pt
   pulled out his post-pyloric dobhoff and NGT placed yesterday.
   - Place NGT for gastric suction. Still suctioning quite a bit (300cc
   since MN).
   - Currently holding feeds pending amount suctioned from NGT.
   - Replace NGT with dobhoff (IR or surgery) once amount suctioned
   decreases
   - monitor for signs of worsening including decreased UOP, hypotension,
   worsening abd distention, increased abd pressure (seen with bladder P),
   decreased hct or increasing WBC
   -morphine and tylenol PRN for pain although pt has not needed these.
   .
   * HTN
 BP remains elevated. Restarted cozaar and HCTZ.  HCTZ will take
   time to work and pt may still be in pain, also with PE
s, pancreatitis.
   Also question of absorbing medications.
   -Team felt that pt most likely absorbing meds
   -monitor BP for now.
   -if SBP>170, give 5-10mg IV hydralazine
   .
   * Anemia -  Hct today is 26.7 and stable.
   - monitor Hct daily
   - maintain active T+S
   - continue folate
   .
   * Diarrhea
 Pt continues to have some stool output. Diarrhea
   attributed to receiving lactulose but now with elevated WBC.
   -Given fever and increased WBC, send C. diff
   .
   * Alcohol and substance abuse
 Social work consult; continue thiamine,
   MVT, folate
   .
   * DM - Continue insulin sliding scale
   ICU Care
   Nutrition: currently NPO; not getting tube feeds.  As there is still
   large amt being suctioned from NGT, will hold tube feeds for one more
   day. Will d/w IR vs surgery about placing post-pyloric dobhoff once
   amount from NGT decreases
   Glycemic Control:   ISS
   Lines:
   Multi Lumen R IJ- [**2114-8-24**] 12:43 PM
 will d/c today and place 2 PIV;
   Unlikely to get PICC now that BCx are positive. Will readdress when BCx
   return negative.
   20 Gauge - [**2114-8-28**] 10:47 AM
   Prophylaxis:
   DVT (treatment): heparin drip
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: wife [**Name (NI) **]
   [**Name (NI) 156**] status: Full code
   Disposition: ICU ; no tx to SICu at this time

2114-09-01 11:18:00 Physician Attending Progress Note
Chief Complaint: Acute pancreatitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   39 yo M with initial admission for etoh withdrawal course c/b acute
   pancreatitis, respiratory failure from tachypnea, now extubated with
   current issues including toxic metabolic encephalopathy, large left
   sided pleural effusion and PE/DVT.
   24 Hour Events:
 BLOOD CULTURED - At [**2114-8-31**] 10:20 AM
   r ij tlcl
 BLOOD CULTURED - At [**2114-8-31**] 10:20 AM
   peripheral
 STOOL CULTURE - At [**2114-8-31**] 10:49 AM
   from flexiseal
 MULTI LUMEN - STOP [**2114-8-31**] 12:00 PM
   autodiuresing -500cc during day yesterday
   bladder pressure 14
   500cc bolus for uop<30cc overnight, responded to fluids
   no meds given on CIWA
   History obtained from Patient, Family / [**Hospital 216**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2114-9-1**] 08:03 AM
   Infusions:
   Heparin Sodium - 2,250 units/hour
   Other ICU medications:
   Other medications:
   folate
   MVI
   lansoprazole
   losartan
   thiamine
   colace
   senna
   HCTZ
   glargine
   insulin ss
   heparin gtt
   vanco
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies pain. Feels comfortable.
   Flowsheet Data as of  [**2114-9-1**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 94 (94 - 116) bpm
   BP: 154/103(115) {135/90(101) - 164/108(120)} mmHg
   RR: 27 (23 - 37) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.2 kg (admission): 78.8 kg
   Bladder pressure: 13 (13 - 14) mmHg
   Total In:
                                                                  1,933 mL
                                                                  1,096 mL
   PO:
   TF:
   IVF:
                                                                  1,683 mL
                                                                  1,096 mL
   Blood products:
   Total out:
                                                                  2,455 mL
                                                                    850 mL
   Urine:
                                                                  1,655 mL
                                                                    700 mL
   NG:
                                                                    550 mL
                                                                    150 mL
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                   -522 mL
                                                                    246 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   Mild respiratory distress
   Encephalopathic, but mild improvement from yesterday, appears less
   anxious
   EOMI, PERRl anicteric
   RRR no m/r/g
   Abdomen
 distended but softer, +BS nontender to palpation
   Ext with trace pitting edema, wwp
   Not oriented to place/date, but answering more questions appropriately
   today
   Labs / Radiology
   8.8 g/dL
   819 K/uL
   131 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.3 mEq/L
   14 mg/dL
   104 mEq/L
   143 mEq/L
   25.8 %
   15.3 K/uL
        [image002.jpg]
                             [**2114-8-29**]  03:42 AM
                             [**2114-8-29**]  03:55 AM
                             [**2114-8-29**]  10:14 AM
                             [**2114-8-29**]  11:33 AM
                             [**2114-8-29**]  04:39 PM
                             [**2114-8-30**]  03:53 AM
                             [**2114-8-30**]  01:59 PM
                             [**2114-8-30**]  02:03 PM
                             [**2114-8-31**]  04:01 AM
                             [**2114-9-1**]  03:04 AM
   WBC
   11.7
   16.7
   16.6
   15.7
   15.3
   Hct
   23.9
   26.7
   25.9
   26.7
   25.8
   Plt
   [**Telephone/Fax (3) 8393**]23
   819
   Cr
   0.4
   0.4
   0.4
   0.4
   0.3
   0.5
   TCO2
   36
   32
   31
   Glucose
   126
   97
   149
   140
   131
   131
   Other labs: PT / PTT / INR:14.5/65.8/1.3, ALT / AST:25/54, Alk Phos / T
   Bili:97/1.1, Amylase / Lipase:13/101, Differential-Neuts:82.5 %,
   Band:1.0 %, Lymph:10.7 %, Mono:6.5 %, Eos:0.2 %, Lactic Acid:1.1
   mmol/L, Albumin:2.8 g/dL, LDH:503 IU/L, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.4 mg/dL
   Microbiology: c diff negative
   blood cx NGTD
   triple lumen picc
   Assessment and Plan
   39 yo M with initial admission for EtOH withdrawal course c/b acute
   pancreatitis, respiratory failure from tachypnea, now extubated with
   current issues including toxic metabolic encephalopathy, large left
   sided pleural effusion and PE/DVT.
   Respiratory Distress - mild, seems to be more comfortable. Does not
   appear to limited by pain/splinting. Large left sided pleural effusion
   - likely will tap in 1 week after effective anticoagulation for now.
   Has left sided PE, but likely matched defect given large amount of
   atelectasis and limited blood flow.
   - continue to wean supplemental O2
   - incentive spirometer if can comply
 PULMONARY EMBOLISM (PE), ACUTE - heparin gtt
 DELIRIUM / CONFUSION - likely toxic metabolic with ICU psychosis -
   improving today - continue to monitor. d/c CIWA today, not requiring
   any meds so unlikely to be benzo withdrawal.
 PANCREATITIS, ACUTE - seems to be improving - abdomen soft, uop okay
   responding to  boluses. Pseudocyst being followed by surgery. Will
   continue serial abd exams,  but can d/c bladder pressures for now.
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN) - fever
   curve trending down, has coag neg staph in blood and catheter tip - was
   on vanco, but staph is pansensitive. Will switch to nafcillin - 4 more
   days. Likely fever was mainly related to inflammation from
   pancreatitis.
 HTN - baseline 150's. On losartan and HCTZ.
 ALCOHOL ABUSE
 social work consulted.
   DISPOSITION
 continue ICU level care.  When ready for discharge from
   ICU, plan to transfer to Surgical service on [**Hospital Ward Name **] (Dr. [**Last Name (STitle) 8420**].
   ICU Care
   Nutrition:
   Comments: currently NPO given high output from NGT. Can consider
   placing post pyloric for TF's if output is minimal.
   Glycemic Control:  Regular insulin sliding scale, Comments: glargine
   Lines:
   20 Gauge - [**2114-8-31**] 10:52 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2114-09-02 08:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**9-1**]
   - agitated and confused overnight, given extra 1 mg ativan
   - no residuals from NGT, tolerated NGT being clamped all day
   - goal to keep fluid balance even was met
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2114-9-1**] 08:03 AM
   Nafcillin - [**2114-9-2**] 04:30 AM
   Infusions:
   Heparin Sodium - 2,200 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2114-9-2**] 03:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-9-2**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.6
C (99.7
   HR: 84 (84 - 106) bpm
   BP: 130/74(87) {130/74(87) - 166/107(118)} mmHg
   RR: 23 (23 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71.8 kg (admission): 78.8 kg
    Bladder pressure: 11 (11 - 11) mmHg
   Total In:
                                                                  2,220 mL
                                                                    400 mL
   PO:
   TF:
   IVF:
                                                                  2,170 mL
                                                                    350 mL
   Blood products:
   Total out:
                                                                  2,360 mL
                                                                    620 mL
   Urine:
                                                                  2,210 mL
                                                                    620 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                   -140 mL
                                                                   -220 mL
   Physical Examination
   General: Agitated, answers some Qs appropriately, making random
   comments
   Pulm Clear anteriorly b/l
   CV Tachycardic; murmurs or gallops difficult to assess as pt talked
   through exam.
   Abd Mildly distended, active bowel sounds, did not grimace with
   palpation
   Extrem Warm, trace- edema in hands and feet, 2+ distal pulses. legs
   symmetric
   Labs / Radiology
   762 K/uL
   8.7 g/dL
   94 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.0 mEq/L
   11 mg/dL
   101 mEq/L
   138 mEq/L
   25.2 %
   18.3 K/uL
        [image002.jpg]
                             [**2114-8-29**]  03:55 AM
                             [**2114-8-29**]  10:14 AM
                             [**2114-8-29**]  11:33 AM
                             [**2114-8-29**]  04:39 PM
                             [**2114-8-30**]  03:53 AM
                             [**2114-8-30**]  01:59 PM
                             [**2114-8-30**]  02:03 PM
                             [**2114-8-31**]  04:01 AM
                             [**2114-9-1**]  03:04 AM
                             [**2114-9-2**]  04:00 AM
   WBC
   16.7
   16.6
   15.7
   15.3
   18.3
   Hct
   26.7
   25.9
   26.7
   25.8
   25.2
   Plt
   [**Telephone/Fax (3) 8428**]19
   762
   Cr
   0.4
   0.4
   0.4
   0.3
   0.5
   0.5
   TCO2
   36
   32
   31
   Glucose
   97
   149
   140
   131
   131
   94
   Other labs: PT / PTT / INR:15.2/67.7/1.3,
   Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   .
   CXR [**9-2**]: none
   .
   Central line tip
 no significant growth (prelim)
   BCx ([**8-30**], [**8-31**])
 pending
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE
 DELIRIUM / CONFUSION
 PANCREATITIS, ACUTE
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALCOHOL ABUSE
   .
   Mr. [**Known lastname 8276**] is a 39M with h/o DM and alcoholism and pancreatitis, DVT and
   PE, extubated but with continued oxygen requirement, calm overnight
   after test dose of ativan.
   .
   * Respiratory Distress
 on 4L O2 via NC.  Continued oxygen requirement
   may be due increased intraabdominal pressure from the pancreatitis, PE,
   or presence of bilateral pleural effusions. Volume overload less likely
   as pt even. His fluid balance is even for stay here.
   - No thoracentesis at this time, anticoagulation is the priority.
   Tapping now could cause VQ mismatch and precipitated hypoxemia.
   - Goal fluid balance of even today.
   - Heparin drip for PE
 monitor PTT
   - Wean oxygen as tolerated
   - can stop getting serial bladder pressures, daily abdominal exams will
   be enough
   .
   # Sepsis
 pt meets SIRS criteria by HR, RR, WBC count. Now with GPC
   bacteremia in BCx from central venous line and peripheral site. F/u
   cultures 8/20 and [**8-31**] have been NGTD. Unlikely to be skin contaminant
   given that it is in two places.
   -changed vancomycin to nafcillin, continue for 4 more days, today is
   day [**2-14**]
   -F/u IJ tip culture
   .
   # DVT/PT
 Pt with b/l DVTs and CTA demonstrated segmental PE.
   Currently pt may be maintaining good O2 saturation because of pleural
   effusion and no VQ mismatch given that he has decreased perfusion and
   ventilation, as above.
   -heparin drip (without bolus per surgery recs) given concern for
   hemorrhagic pancreatitis
   -Goal PTT 60-80
   .
   * Agitation
 Pt was agitated and confused overnight. Received extra
   dose 1mg ativan. Patient 3 weeks out from last drink, therefore
   delirium tremens less likely. [**Month (only) 8**] be delirious from sepsis,
   pancreatitis, medications, prolongued ICU stay, electrolyte
   disturbances. Also with DVT/PE, which may be contributing to agitation
   as he is hypoxic although O2 sats ok. Head CT here negative.
   -Ativan PRN
   - Haldol prn agitation if ativan does not work
 prior to giving
   haldol, will evaluate vitals, neuro exam, glucose, hypoxemia, metabolic
   acidosis, CNS infection.
   -OOB to chair today
   -continue holding neurontin
   -wife at bedside to help with re-orientation
   -Continue to monitor closely.
   .
   # Tachycardia
 HR improved with range 84-106. [**Month (only) 8**] be due to sepsis,
   pulmonary embolism, pancreatitis, fever, possible benzo withdrawal or
   combination of these.
   -address underlying issues as above
   .
   * Fever
 Fevers decreasing with Tmax 100.2 overnight. WBC again
   increased to 18.3 today. [**Month (only) 8**] be due to sepsis, pancreatitis, or DVT/PE.
   Also consider pneumonitis as pt just extubated. C. diff negative x2.
   - F/u blood cultures
   - Continue nafcillin
   - Use cooling blanket for temp if pt uncomfortable.
   .
   * Pancreatitis
 CT abdomen showed no pancreatic necrosis.
   Pancreatitis likely precipitated by drinking [**Doctor First Name 8366**]. Hypertriglyceridemia
   may also be cause as TG elevated (only in 200s here), atlhough was 3000
   at OSH.  Abdominal exam is improved this morning, not as firm.  NGT to
   suction all day with low residuals. Pt tolerated clamping without
   vomiting.
   - Currently holding feeds.
   - Replace NGT with dobhoff (IR or surgery) possibly tmrw
   - monitor for signs of worsening including decreased UOP, hypotension,
   worsening abd distention, decreased hct or increasing WBC
   -morphine and tylenol PRN for pain although pt has not needed these.
   .
   * HTN
 BP slightly elevated with SBP 130s-160s. Restarted cozaar and
   HCTZ.  HCTZ will take time to work and pt may still be in pain, also
   with PE
s, pancreatitis.
   -monitor BP for now.
   -if SBP>170, give 5-10mg IV hydralazine
   .
   * Anemia -  Hct today is 25.2 (25.8 yesterday). It is slowly
   decreasing, not at transfusion threshold. No evidence of active
   bleeding.
   - monitor Hct daily
   - maintain active T+S
   - continue folate
   .
   * Diarrhea
 Pt is C. diff negative.  Diarrhea has much improved.  No
   fevers overnight.
   .
   * Alcohol and substance abuse
 Social work consult; continue thiamine,
   MVT, folate
   .
   * DM - Continue insulin sliding scale
   ICU Care
   Nutrition: currently NPO; not getting tube feeds.  Pt tolerated NGT
   being clamped. Will d/w IR vs surgery about placing post-pyloric
   dobhoff tomorrow to resume tube feeds
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2114-9-1**] 08:46 PM
   Prophylaxis:
   DVT (treatment): heparin drip
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: wife [**Name (NI) **]
   [**Name (NI) 156**] status: Full code
   Disposition: ICU
 Plan to call out to surgery ([**Hospital Ward Name 383**] 9) today.

2114-09-02 11:07:00 Physician Attending Progress Note
Chief Complaint: pancreatitis
   HPI:
   39 yo M with initial admission for EtOH withdrawal course c/b acute
   pancreatitis, respiratory failure from tachypnea, now extubated with
   current issues including toxic metabolic encephalopathy, large left
   sided pleural effusion and PE/DVT.
   24 Hour Events:
   agitated overnight, received 2mg ativan with good response
   NGT clamped all of yesterday without emesis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2114-9-1**] 08:03 AM
   Nafcillin - [**2114-9-2**] 10:18 AM
   Infusions:
   Heparin Sodium - 2,200 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2114-9-2**] 03:10 AM
   Other medications:
   glargine
   insulin ss
   HCTZ
   colace
   senna
   thiamine
   folate
   cozaar
   ppi
   MVI
   heparin gtt
   nafcillin
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies pain
   Flowsheet Data as of  [**2114-9-2**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.4
C (99.3
   HR: 107 (84 - 107) bpm
   BP: 137/99(109) {130/74(87) - 166/107(118)} mmHg
   RR: 29 (23 - 32) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 71.8 kg (admission): 78.8 kg
   Bladder pressure: 11 (11 - 11) mmHg
   Total In:
                                                                  2,220 mL
                                                                    684 mL
   PO:
   TF:
   IVF:
                                                                  2,170 mL
                                                                    634 mL
   Blood products:
   Total out:
                                                                  2,360 mL
                                                                    915 mL
   Urine:
                                                                  2,210 mL
                                                                    915 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                   -140 mL
                                                                   -231 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Lungs
 CTAB, decreased at left base
   Heart - RRR
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present, Distended,
   continues to be softer than prior exams
   Skin:  no rash, wwp
   Neurologic: nonfocal exam, moving ext x 4
   Oriented to
hospital
 thought this was [**Hospital1 586**]. Asked occasional lucid
   questions, overall improved from yesterday. Calm.
   Labs / Radiology
   8.7 g/dL
   762 K/uL
   94 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.0 mEq/L
   11 mg/dL
   101 mEq/L
   138 mEq/L
   25.2 %
   18.3 K/uL
        [image002.jpg]
                             [**2114-8-29**]  03:55 AM
                             [**2114-8-29**]  10:14 AM
                             [**2114-8-29**]  11:33 AM
                             [**2114-8-29**]  04:39 PM
                             [**2114-8-30**]  03:53 AM
                             [**2114-8-30**]  01:59 PM
                             [**2114-8-30**]  02:03 PM
                             [**2114-8-31**]  04:01 AM
                             [**2114-9-1**]  03:04 AM
                             [**2114-9-2**]  04:00 AM
   WBC
   16.7
   16.6
   15.7
   15.3
   18.3
   Hct
   26.7
   25.9
   26.7
   25.8
   25.2
   Plt
   [**Telephone/Fax (3) 8428**]19
   762
   Cr
   0.4
   0.4
   0.4
   0.3
   0.5
   0.5
   TCO2
   36
   32
   31
   Glucose
   97
   149
   140
   131
   131
   94
   Other labs: PT / PTT / INR:15.2/67.7/1.3, ALT / AST:25/54, Alk Phos / T
   Bili:97/1.1, Amylase / Lipase:13/101, Differential-Neuts:82.5 %,
   Band:1.0 %, Lymph:10.7 %, Mono:6.5 %, Eos:0.2 %, Lactic Acid:1.1
   mmol/L, Albumin:2.8 g/dL, LDH:503 IU/L, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.8 mg/dL
   Microbiology: CVL tip NGTD
   blood NGTD
   [**8-29**] blood cx coag neg staph
   Assessment and Plan
   39 yo M with initial admission for EtOH withdrawal course c/b acute
   pancreatitis, respiratory failure from tachypnea, now extubated with
   current issues including toxic metabolic encephalopathy, large left
   sided pleural effusion and PE/DVT.
   Respiratory Distress - mild, seems to be more comfortable. Does not
   appear to limited by pain/splinting. Large left sided pleural effusion
   - likely will tap in 1 week after effective anticoagulation for now
   will recheck CXR to see if it is resolving. Has left sided PE, but
   likely matched defect given large amount of atelectasis and limited
   blood flow.
   - comfortable on room air
   - incentive spirometer if can comply
 PULMONARY EMBOLISM (PE), ACUTE - heparin gtt
 DELIRIUM / CONFUSION - likely toxic metabolic with ICU psychosis -
   improving today - continue to monitor. d/c
d CIWA today, but prn ativan
   okay for agitation overnight.
 PANCREATITIS, ACUTE - seems to be improving - abdomen soft, uop good.
   Pseudocyst being followed by surgery. Will continue serial abd exams,
   but can d/c bladder pressures for now.
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN) - fever
   curve trending down, has coag neg staph in blood and catheter tip - was
   on vanco, but staph is pansensitive. Switched to nafcillin - 3 more
   days. Likely fever was mainly related to inflammation from
   pancreatitis.
 HTN - baseline 150's. On losartan and HCTZ.
 ALCOHOL ABUSE
 social work consulted.
   DISPOSITION
plan to transfer to Surgical service on [**Hospital Ward Name **] (Dr.
   [**Last Name (STitle) 542**] today.
   ICU Care
   Nutrition:
   Comments: restarting TF's today
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2114-9-1**] 08:46 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes